2131-09-18 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2131-9-17**] 10:02 AM
 INVASIVE VENTILATION - START [**2131-9-17**] 11:35 AM
 ARTERIAL LINE - START [**2131-9-17**] 02:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2131-9-17**] 09:39 PM
   Left hip
 BLOOD CULTURED - At [**2131-9-18**] 05:16 AM
   x2 one from art line, one from REJ
 FEVER - 102.3
F - [**2131-9-17**] 12:00 PM
   If clinically indicated, a TEE may be better able to define the
   tricuspid valve morphology. Is there a history to suggest possible
   pulmonary embolism?"
   -TEE fellow will ? TEE tomorrow versus the following day. will contact
   us tomorrow
   -making ~100cc/hr of urine
   -got a bunch of boluses and startedd on neo and vasopressin
   -got MRI hip and CT torso
   -sent sputum culture
   -bolused a few times, remained [**Last Name (un) **] in 100s-110s
   -spiked to 100.8, and HR rose to 120s
   -lots of ectopy
   -developing metabolic acidosis, likely 2/2 NS
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2131-9-18**] 04:00 AM
   Ceftriaxone - [**2131-9-18**] 05:18 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Propofol - 15 mcg/Kg/min
   Phenylephrine - 4.3 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Propofol - [**2131-9-17**] 09:37 PM
   Fentanyl - [**2131-9-18**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-18**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.7
C (99.8
   HR: 123 (108 - 185) bpm
   BP: 79/48(59) {65/37(28) - 108/67(79)} mmHg
   RR: 28 (14 - 59) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 6 (2 - 22)mmHg
   Total In:
                                                                  9,413 mL
                                                                  4,265 mL
   PO:
   TF:
   IVF:
                                                                  6,413 mL
                                                                  4,265 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    740 mL
   Urine:
                                                                  1,690 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,723 mL
                                                                  3,525 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 551 (551 - 551) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   Plateau: 0 cmH2O
   SpO2: 93%
   ABG: 7.32/34/77.[**Numeric Identifier **]/18/-7
   Ve: 17 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Cardiovascular: gen: intubated, sedated
   cv: rrr
   resp: cta anteriorly
   abd: soft, nt
   ext: no edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   60 K/uL
   11.4 g/dL
   81 mg/dL
   1.2 mg/dL
   18 mEq/L
   3.9 mEq/L
   36 mg/dL
   113 mEq/L
   141 mEq/L
   35.7 %
   19.1 K/uL
        [image002.jpg]
                             [**2131-9-17**]  06:44 AM
                             [**2131-9-17**]  03:05 PM
                             [**2131-9-17**]  03:25 PM
                             [**2131-9-17**]  08:03 PM
                             [**2131-9-17**]  08:27 PM
                             [**2131-9-18**]  01:43 AM
                             [**2131-9-18**]  04:42 AM
   WBC
   8.8
   17.1
   19.1
   Hct
   37.7
   35.4
   35.7
   Plt
   25
   50
   60
   Cr
   1.3
   1.3
   1.1
   1.2
   TCO2
   18
   18
   18
   Glucose
   104
   101
   121
   81
   Other labs: PT / PTT / INR:15.5/39.1/1.4, CK / CKMB / Troponin-T:31//,
   ALT / AST:52/65, Alk Phos / T Bili:98/2.9, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:2.3 mmol/L, LDH:280 IU/L, Ca++:7.3 mg/dL, Mg++:2.8 mg/dL,
   PO4:2.6 mg/dL
   Imaging: -TTE showed "The left atrium and right atrium are normal in
   cavity size. The estimated right atrial pressure is 0-5 mmHg. Left
   ventricular wall thickness, cavity size and regional/global systolic
   function are normal (LVEF >55%). Right ventricular chamber size and
   free wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve appears structurally normal with
   trivial mitral regurgitation. The tricuspid valve leaflets are mildly
   thickened. In some views, a linear/filamentous mobile echodensity is
   seen on the right atrial side of the valve c/w
   ?artifact/thrombus/vegetation. There is mild tricuspid regurgitation.
   There is moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Mildly thickened tricuspid leaflets with possible
   vegetation as described above. Moderate pulmonary artery systolic
   hypertension suggesting a primary pulmonary process.
   torso CT wet read: 1. Multifocal lung cavities c/w septic emboli (esp
   given splenic lesion) or
   cavitatory pneumonia (S aureus). Less likely cavitatory mets)
   2. Splenic hypdensities liklely septic emboli (less likley neoplasm
   given
   clincal context)
   3. Lytic lesion in iliacs are of indeterminate time-line Consider bone
   scan /
   for further evaluation
   4. Likely renal simple cysts bilaterally
   5. Trace pelvic free fluid
   6. LAD CAC
   MRI hip read pending
   Microbiology:    GRAM STAIN (Final [**2131-9-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   Assessment and Plan
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   Assessment and Plan: This is a 57 year old man with pmh IV drug use,
   SLE, endocarditis, presenting with three days of gastrointestinal
   symptoms, followed by intense left hip pain, along with multiple lab
   abnormalities including bandemia, thrombocytopenia, elevated
   transaminases, and coagulopathy
   .
   #? veg on tricuspid valve + emboli in lungs and spleen
   -continue brood spectrum antibiotics
   -TEE today
   -f/u cultures
   .
   # Hip Pain: septic arthritis vs. bursitis vs. inflammatory
   arthropathy.  Hip CT was unremarkable.  pain and bandemia, low grade
   temperature is concerning for septic joint.
   -MRI to assess for effusion
   -IR guided joint tap if there is something to tap.
   -consider call ortho
   .
   # Bandemia: positive UA, CXR concerning for pneumonia, hip pain
   exacerbated with passive motion.
   -continue vancomycin, levaquin, ceftriaxone.
   -f/u cultures
   -IR guided tap of hip
   -echo
   .
   #hypotension: likely [**1-29**] septic shock. no reason to believe he would be
   in cardiogenic shock.
   -will continue to bolus and use pressors as appropriate
   -monitor cardiac output c vigileo
   -continue broad spectrum abx
   -continue to search for source infection
   -fu blood cultures
   .
   # tachycardia: could be hypotension as well as pain. also concerned for
   EtOH withdrawal
   -would switch propofol to midaz out of concern for etoh withdrawal
   .
   #Respiratory status: currently intubated.
   -wean prn
   .
   #: Acid base status: ABG c/w nongap acidosis. likely from volume
   repletion. will trend.
   .
   # Hyponatremia: Hypovolemic on exam, corrected with IVF. will consider
   with IVF.
   -serum osm
   -Urine osm, U lytes
   .
   # Hypokalemia: Potentially diahrrea vs. vomiting vs. RTA vs. diuretics.
   -replete prn
   -check trans tubular potassium gradient.
   .
   # Acute renal failure: Likely prerenal as improved with IVF.
   -trend creatinine
   -urine osm, urine lytes.
   .
   # Thrombocytopenia: Unsure if new, possibly from sepsis vs. DIC vs/
   viral illness.
   -trend
   -smear for schistocytes
   -HIV
   .
   # Coagulopathy: Elevated INR may be from DIC vs. poor PO intake vs.
   liver disease. Elevated PTT also from liver disease, DIC, potentially
   antiphospholipid antibodies, coagulation factor inhibitors.
   - DIC labs
   - replete plts < 10
   - replete fibrinogen < 100
   - check DIC labs, FDP, fibrinogen coags.
   - smear for schistocytes.
   .
   # Microcytic anemia:
   -iron studies
   -hemolysis labs
   -consider Hemoglobin electropheresis
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQUS showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -check hepatitis serologies, autoimmune serologies
   .
   #Splenic Hypodensities: hyperchoic lesions apparent on Ultrasound.
   uncertain if consistent with abscess vs. cyst vs. infarction.
   -touch base with radiology
   -abdominal CT scan.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots
   .
   # Access: EJ and IJ
   .
   # Code: full
   .
   # Communication: Next of [**First Name8 (NamePattern2) **] [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**]
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   18 Gauge - [**2131-9-17**] 06:36 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-20 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2131-9-19**] 10:53 AM
   ip REVIWED PLEURAL EFFEUSIONS
 THORACENTESIS - At [**2131-9-19**] 12:05 PM
 FEVER - 102.8
F - [**2131-9-19**] 09:00 PM
   -IP tried to tap pleural fluid but were not able to. no ptx.
   -OGT placed (looks weird on cxr but rads says ok, just pulled back 3
   cm)
   -CT head negative, but sensitive study for septic emboli without
   contrast
   -started on tube feeds, awaiting nutrition recs
   -good UOP
   -on three pressors, but weaning successfully in the afternoon; now down
   to two
   -as per CT surgery and ID, no indication for surgery unless right sided
   failure
   -ID wants vanco monotherapy with trough 15-20; no indication for
   addition of gentamicin
   -not surprisingly, growing GPC in clusters in blood culture from
   admission
   -high Fio2 on AM gas, decreased PEEP from 10 to 8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-9-18**] 04:00 AM
   Ceftriaxone - [**2131-9-18**] 05:18 AM
   Vancomycin - [**2131-9-19**] 09:37 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 175 mcg/hour
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.17 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-19**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-20**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.9
C (100.2
   HR: 102 (100 - 117) bpm
   BP: 94/57(69) {94/57(68) - 109/66(81)} mmHg
   RR: 29 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 13 (11 - 14)mmHg
   CO/CI (CCO): (4.4 L/min) / (2.4 L/min/m2)
   Total In:
                                                                  2,889 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  2,889 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    270 mL
   Urine:
                                                                  1,295 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.34/48/201/25/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 402
   Physical Examination
   gen: intubated, sedated
   cv: RRR
   resp: rhonchorous
   abd: soft, hypoactive bs
   ext: no edema
   Labs / Radiology
   59 K/uL
   9.4 g/dL
   106 mg/dL
   1.9 mg/dL
   25 mEq/L
   4.3 mEq/L
   50 mg/dL
   104 mEq/L
   137 mEq/L
   29.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2131-9-18**]  10:29 PM
                             [**2131-9-19**]  03:14 AM
                             [**2131-9-19**]  03:34 AM
                             [**2131-9-19**]  07:51 AM
                             [**2131-9-19**]  12:03 PM
                             [**2131-9-19**]  03:16 PM
                             [**2131-9-19**]  03:33 PM
                             [**2131-9-20**]  03:43 AM
                             [**2131-9-20**]  04:34 AM
                             [**2131-9-20**]  06:36 AM
   WBC
   21.0
   12.3
   Hct
   32.1
   29.2
   Plt
   67
   59
   Cr
   1.6
   1.7
   1.9
   TCO2
   23
   26
   25
   25
   27
   27
   27
   Glucose
   128
   87
   106
   Other labs: PT / PTT / INR:15.7/38.7/1.4, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:2.3 mmol/L, LDH:356 IU/L, Ca++:7.3 mg/dL, Mg++:2.9 mg/dL,
   PO4:4.5 mg/dL
   Microbiology: GRAM STAIN (Final [**2131-9-19**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Assessment and Plan
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   Assessment and Plan: This is a 57 year old man with pmh IV drug use,
   SLE, endocarditis, presenting with three days of gastrointestinal
   symptoms, followed by intense left hip pain, along with multiple lab
   abnormalities including bandemia, thrombocytopenia, elevated
   transaminases, and coagulopathy found to have a large vegetation on
   tricuspid valve.
   .
   #sepsis/endocarditis: pt c vegetation on tricuspid valve, lesions in
   lungs, bursiitis in L hip, splenic abscesses, MRSA growing from urine.
   likely all of these are [**1-29**] staph aureus endocarditis [**1-29**] IVDU.
   -f/u all cultures and sensitivities
   -ID recommends continue vancomycin
   - CT [**Doctor First Name **] consulted, final recs pending
   -IP not able to tap small pleural effusion
   -will continue to bolus and use pressors as appropriate
   -will continue just vancomycin for goal trough 15-20. will stop
   ceftriaxone and levo. Check another trough tomorrow
   .
   #Respiratory status: currently intubated, on assist control but not on
   ardsnet protocol
   -pt does meet ardsnet protocol based on Aa gradient and b/l infiltrates
   (though not totally typical for ards).
   -will continue ards settings
   -consider weaning as pt's resp status improves
   -continue sedation c fent midaz
   .
   # tachycardia: could be hypotension as well as pain. also concerned for
   EtOH withdrawal
   -continues to have HR of 100 which is much improved over admission HR
   of 150-160s.
   .
   # Acute renal failure: Initially likely prerenal as improved with IVF.
   Now mildly worsening. Perhaps this is ATN [**1-29**] hypotension or vancomycin
   toxicity.
   Will continue to trend. Bolus for UOP <30cc/hr.
   .
   # Thrombocytopenia: Unsure if new, possibly from sepsis vs. DIC
   vs/viral illness.
   -trend
   -smear for schistocytes does not show significant schistos
   -HIV serology negative, could encourage pt to repeat in 3 months
   -RUQ u/s did not show cirrhosis
   .
   # Microcytic anemia:
   -iron studies show iron def anemia and elev ferritin in setting of
   acute inflammation, would consider iv iron after pt over acute
   infectious illness
   -hemolysis labs reassuring (LDH elevated, but no sig indir bili,
   haptoglobin wnl)
   -consider Hemoglobin electropheresis
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR pending
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   -will need liver f/u as outpt
   .
   # FEN: IVF prn, replete electrolytes, OGT, f/u nutrition recs re tube
   feeds
   .
   # Prophylaxis: pneumoboots
   .
   # Access: IJ and axillary aline, plan for PICC monday
   .
   # Code: full
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-21 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-9-20**] 02:11 PM
 FEVER - 102.5
F - [**2131-9-20**] 08:00 PM
   -pt persistently tachycardic ~130s as sedation and vent weaned
   -initially tried giving low dose fent drip back s effect, then tried
   giving back a little xtra peep but that didn't help, then tried a fent
   bolus (100) and then when that didn't work, increased sedation c some
   effect. did not switch vent settings as tidal volumes and RR good.
   tried bolusing 500cc and pt put out more urine (200cc) s effect. I
   think perhaps TR sounds worse at this rate. Not sure what else to try.
   since increasing sedation didn't help much, will try backing off.
   ID recs: keep vanc levels >15-20.
   -went up on ps for 7.33/52/105 this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-20**] 08:18 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-20**] 08:14 AM
   Fentanyl - [**2131-9-20**] 06:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.1
C (100.6
   HR: 122 (103 - 139) bpm
   BP: 91/58(70) {90/54(67) - 112/72(83)} mmHg
   RR: 22 (22 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 10 (9 - 11)mmHg
   CO/CI (CCO): (4.7 L/min) / (2.6 L/min/m2)
   Total In:
                                                                  2,154 mL
                                                                    734 mL
   PO:
   TF:
                                                                    370 mL
   IVF:
                                                                  1,655 mL
                                                                    734 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    780 mL
   Urine:
                                                                  1,610 mL
                                                                    780 mL
   NG:
                                                                    245 mL
   Stool:
   Drains:
   Balance:
                                                                    299 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 456 (411 - 574) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.35/49/132/26/0
   Ve: 12.5 L/min
   PaO2 / FiO2: 264
   Physical Examination
   gen: intubated, sedated
   cv: regular rhythm, tachycardic, loud systolic blowing murmur
   resp: cta anteriorly
   abd: soft, +BS
   ext: edematous
   Labs / Radiology
   55 K/uL
   8.6 g/dL
   110 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   47 mg/dL
   108 mEq/L
   141 mEq/L
   27.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2131-9-19**]  03:16 PM
                             [**2131-9-19**]  03:33 PM
                             [**2131-9-20**]  03:43 AM
                             [**2131-9-20**]  04:34 AM
                             [**2131-9-20**]  06:36 AM
                             [**2131-9-20**]  02:01 PM
                             [**2131-9-20**]  04:04 PM
                             [**2131-9-21**]  03:20 AM
                             [**2131-9-21**]  04:08 AM
                             [**2131-9-21**]  05:56 AM
   WBC
   12.3
   11.0
   Hct
   29.2
   27.6
   Plt
   59
   55
   Cr
   1.7
   1.9
   1.7
   TCO2
   27
   27
   27
   28
   27
   29
   28
   Glucose
   87
   106
   110
   Other labs: PT / PTT / INR:15.0/35.6/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.9 mmol/L, LDH:356 IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL,
   PO4:4.3 mg/dL
   Fluid analysis / Other labs:
   Microbiology: HCV-RNA NOT DETECTED.
   Growing mrsa from one blood culture, ucx, sputum culture
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   Assessment and Plan: This is a 57 year old man with pmh IV drug use,
   SLE, endocarditis, presenting with three days of gastrointestinal
   symptoms, followed by intense left hip pain, along with multiple lab
   abnormalities including bandemia, thrombocytopenia, elevated
   transaminases, and coagulopathy found to have a large vegetation on
   tricuspid valve.
   .
   #sepsis/endocarditis: pt c vegetation on tricuspid valve, lesions in
   lungs, bursiitis in L hip, splenic abscesses, MRSA growing from urine.
   likely all of these are [**1-29**] staph aureus endocarditis [**1-29**] IVDU.
   -f/u all cultures and sensitivities
   - CT [**Doctor First Name **] consulted, final recs pending
   -IP not able to tap small pleural effusion
   -will continue to bolus and use pressors as appropriate
   -will continue dose vancomycin for goal trough 15-20. vanc 17.4 this
   am, 750BID seems to be good dose. will continue to dose by level as
   renal func likely changing quickly.
   .
   #Respiratory status/sedation: currently intubated, on assist control
   but not on ardsnet protocol
   -switched to psv
   -consider weaning as pt's resp status improves
   -continue sedation c fent midaz, wean prn
   -could consider starting methadone as weaning fentanyl
   .
   # tachycardia/? Worsening valve func: could be hypotension as well as
   pain. also concerned for EtOH withdrawal, opiate withdrawal, anxiety,
   hemodynamic instability
   -pt tachycardic in 130s all day yesterday, seemed unaffected by
   sedation which was weaned and then restarted. unaffected by volume
   repletion. Unaffected by changes in psv. Unaffected by vasopressin
   versus levophed.
   -will try increasing FiO2 to decrease PVR
   -recheck TTE ? worsening valve function
   -cards consult
   .
   # Acute renal failure: Perhaps this is ATN [**1-29**] hypotension or
   vancomycin toxicity. Cr from 1.9 to 1.7 today.
   Will continue to trend. Bolus for UOP <30cc/hr.
   .
   # Thrombocytopenia: Unsure if new, possibly from sepsis vs. DIC
   vs/viral illness.
   -trend
   -smear for schistocytes does not show significant schistos
   -HIV serology negative, could encourage pt to repeat in 3 months
   -RUQ u/s did not show cirrhosis
   .
   # Microcytic anemia:
   -iron studies show iron def anemia and elev ferritin in setting of
   acute inflammation, would consider iv iron after pt over acute
   infectious illness
   -hemolysis labs reassuring (LDH elevated, but no sig indir bili,
   haptoglobin wnl)
   -consider Hemoglobin electropheresis
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR negative!
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   .
   # FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   # Prophylaxis: pneumoboots, one small bm on lactulose, senna, colace.
   could consider PO narcan.
   .
   # Access: IJ and axillary aline, plan for PICC monday
   .
   # Code: full
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-22 07:53:00 Physician Resident Progress Note
Chief Complaint: 57 yom with hx of IVDU now with fulminant MRSA
   endocarditis and severe TR with septic emboli to lungs and spleen.
   24 Hour Events:
   -TTE: growing TC vegetation with worsening severe 4+ TR and increased
   right heart strain
   -Cardiology recs: fulminant endocarditis with severe TR and acute RV
   failure with small chance for survival, reduce pressor dose, attempt
   diuresis, consider nitric oxide, no indication for cardioversion
   -Cardiac surgery recs: reviewed scan and report RV fxn quite good and
   believe vegetation is stable, not good surgical candidate given septic
   emboli to lungs and high PEEP and FIO2 requirements
   -ID recs: continue Vancomycin 750 [**Hospital1 **] for goal trough 15-20, if trough
   too high give lower dose but DO NOT skip dose
   -Patient tried on Nitric Oxide to reduce pulmonary vascular resistance
   in hopes of improving cardiac function, this did not work
   -weaned off pressors, started on small lasix drip with some improvement
   in HR
   -given PO narcan for constipation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-21**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.3
C (99.1
   HR: 108 (105 - 142) bpm
   BP: 113/74(89) {84/52(63) - 125/76(91)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 10 (10 - 13)mmHg
   Total In:
                                                                  1,765 mL
                                                                    387 mL
   PO:
   TF:
                                                                     23 mL
   IVF:
                                                                  1,695 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    730 mL
   Urine:
                                                                  2,515 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -343 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (440 - 545) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.41/44/103/27/2
   Ve: 11.4 L/min
   PaO2 / FiO2: 206
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   80 K/uL
   9.3 g/dL
   92 mg/dL
   1.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   40 mg/dL
   113 mEq/L
   145 mEq/L
   30.4 %
   15.1 K/uL
        [image002.jpg]
                             [**2131-9-20**]  06:36 AM
                             [**2131-9-20**]  02:01 PM
                             [**2131-9-20**]  04:04 PM
                             [**2131-9-21**]  03:20 AM
                             [**2131-9-21**]  04:08 AM
                             [**2131-9-21**]  05:56 AM
                             [**2131-9-22**]  12:40 AM
                             [**2131-9-22**]  04:00 AM
                             [**2131-9-22**]  04:03 AM
                             [**2131-9-22**]  05:57 AM
   WBC
   11.0
   15.1
   Hct
   27.6
   30.4
   Plt
   55
   80
   Cr
   1.7
   1.5
   TCO2
   27
   28
   27
   29
   28
   30
   30
   29
   Glucose
   110
   92
   Other labs: PT / PTT / INR:15.2/33.2/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.4 mmol/L, LDH:356 IU/L, Ca++:7.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:4.6 mg/dL
   Microbiology
   - Urine, blood and sputum
 MRSA +
   Radiology
   - TTE: growing TC vegetation with worsening severe 4+ TR and increased
   right heart strain
   Assessment and Plan
   57 yom with hx of IVDU now with fulminant MRSA endocarditis and severe
   TR with septic emboli to lungs and spleen
   .
   #sepsis/endocarditis: pt c vegetation on tricuspid valve, lesions in
   lungs, bursiitis in L hip, splenic abscesses, MRSA growing from urine.
   likely all [**1-29**] staph aureus endocarditis [**1-29**] IVDU.  CT surgery does not
   feel patient is an operative candidate. Cardiology  recommends gentle
   diuresis if possible but believe prognosis is poor.
   - continue gentle diuresis with lasix to reduce RV load
   -will continue dose vancomycin for goal trough 15-20.
 if elevated
   trough will lower dose but not hold dose
   .
   #Respiratory status/sedation: currently intubated, on assist control
   but not on ardsnet protocol
   - patient switched to PSV with good ABG and RSBI < 100
   -consider weaning as pt's resp status improves
   -continue sedation c fent midaz, wean prn
   .
   # Tachycardia/ Worsening valve func: sinus tachycardia per cardiology
   likely do to underlying sepsis as well as physiologic response to poor
   forward flow to maintain adequate CO, improved with lasix drip and
   offload of RV.
   -continue gentle lasix diursesis
   .
   # Acute renal failure: likely [**1-29**] poor forward flow with heart failure
   - patient maintains good urine output > 100 cc/hr on own
   - continue gently diuresis and trend Cr
   .
   # Microcytic anemia:
   -iron studies show iron def anemia and elev ferritin in setting of
   acute inflammation, would consider iv iron after pt over acute
   infectious illness
   -hemolysis labs reassuring (LDH elevated, but no sig indir bili,
   haptoglobin wnl)
   -consider Hemoglobin electropheresis
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR negative!
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   .
   # FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   # Prophylaxis: pneumoboots, one small bm on lactulose, senna, colace.
   could consider PO narcan.
   .
   # Access: IJ and axillary aline, plan for PICC monday
   .
   # Code: full
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-22**] 05:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-23 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2131-9-22**] 08:00 PM
   -goal I/O's for day: 2L negative; uptitrated lasix
   -CT head in light of altered mental status and increased risk of ICH
   with endocarditis. Prelim read: Foci of subcortical white matter
   hypodensities in bifrontal lobes extending from the superior convexity
   to the inferior frontal lobes are more conspicuous
   -ID recs: consider reimaging lung effusion to evaluate if developing
   organizing effusion (empyema vs. edema); Blood cx for fever spikes to
   evaluate if persistent bacteremia
   -needs repeat echo on Monday (order not in) for RV function assessment
   -stopped lasix drip (only 1.2L negative) b/c had pressor requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-22**] 07:41 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-22**] 08:32 AM
   Midazolam (Versed) - [**2131-9-23**] 02:45 AM
   Fentanyl - [**2131-9-23**] 03:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-23**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 108 (101 - 132) bpm
   BP: 107/83(88) {98/63(74) - 119/86(93)} mmHg
   RR: 22 (22 - 42) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 6 (3 - 8)mmHg
   Total In:
                                                                  2,074 mL
                                                                    616 mL
   PO:
   TF:
                                                                    393 mL
                                                                    217 mL
   IVF:
                                                                  1,451 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                    690 mL
   Urine:
                                                                  3,310 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,236 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 446 (446 - 525) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.47/39/123/27/5
   Ve: 15 L/min
   PaO2 / FiO2: 308
   Physical Examination
   gen: intubated
   cv: RRR loud systolic blowing murmur
   resp: cta anteriorly
   abd: soft, +BS
   ext: 1+ pititng edema
   Labs / Radiology
   54 K/uL
   8.6 g/dL
   125 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.1 mEq/L
   mg/dL
   111 mEq/L
   145 mEq/L
   27.1 %
   6.8 K/uL
        [image002.jpg]
   Above are yesterday
s labs.
                             [**2131-9-22**]  12:40 AM
                             [**2131-9-22**]  04:00 AM
                             [**2131-9-22**]  04:03 AM
                             [**2131-9-22**]  05:57 AM
                             [**2131-9-22**]  02:53 PM
                             [**2131-9-22**]  03:04 PM
                             [**2131-9-22**]  05:28 PM
                             [**2131-9-22**]  10:01 PM
                             [**2131-9-23**]  06:00 AM
                             [**2131-9-23**]  06:03 AM
   WBC
   15.1
   6.8
   Hct
   30.4
   27.1
   Plt
   80
   54
   Cr
   1.5
   1.3
   TCO2
   30
   30
   29
   31
   28
   30
   29
   Glucose
   92
   125
   Other labs: PT / PTT / INR:15.2/33.2/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:356 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.1 mg/dL
   Imaging: ct head: Since the CT head of four days prior, there is
   increased
   conspicuity of subcortical white matter hypodensities which are
   bilateral but
   slightly more prominent on the right. Etiology is indeterminate. MRI
   with
   diffusion-weighted imaging and post-contrast imaging is recommended for
   further assessment.
   Microbiology: MRSA from sputum throughout stay, MRSA from blood and
   urine on admission, but not since (urine not cultured since admission)
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   .
   57 yom with hx of IVDU now with fulminant MRSA endocarditis and severe
   TR with septic emboli to lungs and spleen
   .
   #sepsis/endocarditis: pt c vegetation on tricuspid valve, lesions in
   lungs, bursiitis in L hip, splenic abscesses, MRSA growing from urine.
   likely all [**1-29**] staph aureus endocarditis [**1-29**] IVDU.  CT surgery does not
   feel patient is an operative candidate. Cardiology recommends gentle
   diuresis if possible but believe prognosis is poor.
   - continue lasix diuresis with goal of  (--) 1L to reduce RV load
   - will continue dose vancomycin for goal trough 15-20.
 if elevated
   trough will lower dose but not hold dose (Vanc trough this am still
   pending)
   - non-contrast head CT indeterminate, could consider MRI c gad as renal
   function is improving (this will depend on GOC based on family mtgs and
   whether this would be useful prognostically in decision making)
   -repeat TTE tomorrow per cards
   -blood cultures for fever spikes
   -consider repeat chest imaging to r/o empyema (based on determination
   of GOC and clinical stability)
   -greatly appreciate cards, ID, CT [**Doctor First Name **] recs
   .
   #Respiratory status/sedation: currently intubated
   - patient tolerating psv
   - sedation discontinued, however pt still minimally responsive.
   Sedation was restarted for tachycardia at lower doses
   -if decide to wean again, may need to start methadone or fent patch for
   opioid withdrawal
   -continue daily wake ups
   .
   #persistent fevers: most likely this is [**1-29**] pulmonary abscesses,
   endocarditis and splenic abscesses. However, pt has now been intubated
   x6 days so VAP is also a possibility
   -will check sputum cx and gram stain
   -will start empiric VAP abx if worsening clinical status or gram stain
   sputum shows GNRs
   .
   # Tachycardia/ Worsening valve func: sinus tachycardia per cardiology
   likely do to underlying sepsis as well as physiologic response to poor
   forward flow to maintain adequate CO, improved with lasix drip and
   offload of RV.
   -restart lasix drip with goal of (--) 1L, will dc lasix if develops
   pressor requirement
   .
   # Acute renal failure: likely [**1-29**] poor forward flow with heart failure
   - continue diuresis and trend Cr
   .
   # Microcytic anemia:
   -iron studies show iron def anemia and elev ferritin in setting of
   acute inflammation, would start po iron once stooling appropriately
   -hemolysis labs reassuring (LDH elevated, but no sig indir bili,
   haptoglobin wnl)
   -keep active T+S
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR negative!
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   .
   # FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   # Prophylaxis: pneumoboots, lactulose, senna, colace
   .
   # Access: IJ and axillary aline, consider PICC monday
   .
   # Code: full, fam mtg tomorrow
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-23**] 02:17 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-24 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2131-9-23**] 01:21 PM
 BLOOD CULTURED - At [**2131-9-23**] 04:18 PM
 FEVER - 101.5
F - [**2131-9-24**] 03:00 AM
   -lasix gtt
   -increased free water flushes
   -nuwan talked to fam, plan to have telephoone mtg at some point
   tomorrow regarding GOC.
   -sputum sent as worsening consolidation on cxr, concerned for VAP
   -social work consulted re both coping for family and re who should be
   making decisions as pt does not have hcp that we know of and has
   children of [**Last Name (un) **] age
   -increased tylenol max great than 2g at nsg request at 9p. Would want
   to discuss this on rounds as pt prob does have underlying liver dis.
   Not sure how to weigh this, prob giving tylenol is best but would want
   to discuss given risks of how fulminent tylenol tox can be.
   -family avail to meet at 2p. they are also flexible about time so if
   another time would be better, please inform. they have one of those
   pagers and hang in the ccu fam room, need to coordinate c family
   members in [**State **] by phone so the earlier a time can be set, the
   better.
   -had been mildly concerned about VAP in setting of recurrent fevers
   (the the staph endocarditis and septic emboli are most likely
   etiology). got sputum gram stain which just showed more GPCs which was
   reassuring.
   -pm lytes c hypernatremia unchanged from am, gave 500cc free water and
   kept tube feed free water the same (as had just increased that this
   am...may need to go up on that again). <-- this did not get given until
   1am so may/may not be reflected in am labs
   -ID: no new recs (expect fevers for at least 9-10 days post treatment)
   -cards: no new note
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-23**] 08:08 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 8 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-23**] 08:08 AM
   Midazolam (Versed) - [**2131-9-24**] 02:46 AM
   Fentanyl - [**2131-9-24**] 02:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-24**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.8
   HR: 105 (105 - 127) bpm
   BP: 123/83(99) {98/63(76) - 143/88(106)} mmHg
   RR: 20 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 3 (3 - 4)mmHg
   Total In:
                                                                  2,879 mL
                                                                  1,587 mL
   PO:
   TF:
                                                                    840 mL
                                                                    217 mL
   IVF:
                                                                    890 mL
                                                                    631 mL
   Blood products:
   Total out:
                                                                  3,255 mL
                                                                  2,110 mL
   Urine:
                                                                  3,255 mL
                                                                  2,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -376 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 505 (408 - 576) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.48/40/144/27/6
   Ve: 11 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   8.0 g/dL
   124 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   38 mg/dL
   110 mEq/L
   144 mEq/L
   26.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2131-9-22**]  05:57 AM
                             [**2131-9-22**]  02:53 PM
                             [**2131-9-22**]  03:04 PM
                             [**2131-9-22**]  05:28 PM
                             [**2131-9-22**]  10:01 PM
                             [**2131-9-23**]  06:00 AM
                             [**2131-9-23**]  06:03 AM
                             [**2131-9-23**]  05:07 PM
                             [**2131-9-23**]  05:18 PM
                             [**2131-9-24**]  03:11 AM
   WBC
   6.8
   9.1
   Hct
   27.1
   26.0
   Plt
   54
   82
   Cr
   1.3
   1.2
   1.2
   1.0
   TCO2
   29
   31
   28
   30
   29
   30
   31
   Glucose
   125
   128
   124
   Other labs: PT / PTT / INR:15.1/28.1/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.7 mmol/L, LDH:356 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.6 mg/dL
   Imaging: FINDINGS: Multifocal areas of alveolar opacification affecting
   the right lung
   to a greater degree than the left appear slightly worse in the interval
   within
   the right lung. Coexisting multifocal cavitary nodules are consistent
   with
   septic emboli. Moderate right pleural effusion is unchanged. Indwelling
   devices remain in standard position.
   HEAD CT from [**9-23**]
   IMPRESSION: Since the CT head of four days prior, there is increased
   conspicuity of subcortical white matter hypodensities which are
   bilateral but
   slightly more prominent on the right. Etiology is indeterminate. MRI
   with
   diffusion-weighted imaging and post-contrast imaging is recommended for
   further assessment.
   Microbiology:   SPUTUM GRAM STAIN (Final [**2131-9-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   #sepsis/endocarditis: pt c vegetation on tricuspid valve, lesions in
   lungs, bursiitis in L hip, splenic abscesses, MRSA growing from urine.
   likely all [**1-29**] staph aureus endocarditis [**1-29**] IVDU.  CT surgery does not
   feel patient is an operative candidate. Cardiology recommends gentle
   diuresis if possible but believe prognosis is poor.
   - On lasix ttg 8 mg/hr:  goal is -1L daily.  Was near -1 L this AM.  No
   need to adjust lasix gtt.
   - Vanc trough this AM is 19.  Continue current dose of vancomycin;
   needs aggressive abx tx despite trough.
   - non-contrast head CT indeterminate, could consider MRI c gad as renal
   function is improving (this will depend on GOC based on family mtgs and
   whether this would be useful prognostically in decision making)
   -repeat TTE per cards done today : Compared with the prior study
   (images reviewed) of [**2131-9-21**], the severity of tricuspid regurgitation
   has decreased with slightly decrease size of the vegetation (previously
   at 2.1 cm x 1.0 cm). The right ventricular size has decrease with
   improved function.  Overall left systolic ventricular function is
   normal.
   -blood cultures for fever spikes
   -consider repeat chest imaging to r/o empyema (based on determination
   of GOC and clinical stability)
   -greatly appreciate cards, ID, CT [**Doctor First Name **] recs
   .
   #Respiratory status/sedation: currently intubated
   - patient tolerating psv
   - sedation discontinued, however pt still minimally responsive.
   Sedation was restarted for tachycardia at lower doses
   -if decide to wean again, may need to start methadone or fent patch for
   opioid withdrawal
   -continue daily wake ups
   .
   #persistent fevers: most likely this is [**1-29**] pulmonary abscesses,
   endocarditis and splenic abscesses. However, pt has now been intubated
   x6 days so VAP is also a possibility
   -Sputum gram stain shows 2+ gram positive cocci in clusters/chains.
   F/U resp cultures
   -No need for empiric VAP abx currently given that clinical status is
   same as yesterday and just gram+ cocci on gram stain.
   .
   # Tachycardia/ Worsening valve func: sinus tachycardia per cardiology
   likely do to underlying sepsis as well as physiologic response to poor
   forward flow to maintain adequate CO, improved with lasix drip and
   offload of RV.
   -Continue current rate of lasix gtt, will D/C if pressors required.
   .
   # Acute renal failure: likely [**1-29**] poor forward flow with heart failure
   - continue diuresis and trend Cr; creatinine has been resolving.
   .
   # Microcytic anemia:
   -iron studies show iron def anemia and elev ferritin in setting of
   acute inflammation, would start po iron once stooling appropriately
   -hemolysis labs reassuring (LDH elevated, but no sig indir bili,
   haptoglobin wnl)
   -keep active T+S
   .
   # Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR negative!
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   .
   # Hypernatremia:  148
 144.
   -Got free water yesterday, improving
   .
   #FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   # Prophylaxis: pneumoboots, lactulose, senna, colace
   .
   # Access: IJ and axillary aline, consider PICC Monday depending upon
   goals of care discussion
   .
   # Code: full, fam mtg this afternoon regarding goals of care
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-23**] 11:41 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-25 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -repeat ECHO: compared w/prior study ([**9-21**])severity of TR slightly
   decreased w/slight decrease in size of veg, RV size has decr. w/
   improved function. Overall normal LVEF at 55%.
   -DNR: family ready to make CMO, awaiting approval from brother in
   [**Name2 (NI) **] and estranged children (daughter [**Name (NI) 8465**] [**Telephone/Fax (1) 8467**])
   -lasix gtt at 8 mg/hr with goal of (-)1 L
   -re-started levophed gtt for MAP < 60, on and off all night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-24**] 07:48 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-24**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-25**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 39.2
C (102.6
   HR: 120 (102 - 136) bpm
   BP: 124/68(86) {83/48(59) - 148/92(112)} mmHg
   RR: 24 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  3,726 mL
                                                                    801 mL
   PO:
   TF:
                                                                    842 mL
                                                                    228 mL
   IVF:
                                                                  1,643 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  7,430 mL
                                                                    660 mL
   Urine:
                                                                  6,630 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,704 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 579 (579 - 579) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.45/49/153/31/9
   Ve: 12.7 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Neuro:  Sedated and intubated
   HEENT:  moist mucous membranes
   Cardiac:  Tachycardic, difficult to appreciate any murmur
   Lungs:  couldn
t appreciate any rales
   Abd: minimal bowel sounds, nondistended
   Lower Extremities:  1+ distal pulses, warm, no edema noted
   Labs / Radiology
   130 K/uL
   7.7 g/dL
   104 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.1 mEq/L
   39 mg/dL
   107 mEq/L
   144 mEq/L
   24.8 %
   16.3 K/uL
        [image002.jpg]
                             [**2131-9-22**]  10:01 PM
                             [**2131-9-23**]  06:00 AM
                             [**2131-9-23**]  06:03 AM
                             [**2131-9-23**]  05:07 PM
                             [**2131-9-23**]  05:18 PM
                             [**2131-9-24**]  03:11 AM
                             [**2131-9-24**]  05:44 PM
                             [**2131-9-24**]  06:03 PM
                             [**2131-9-25**]  02:18 AM
                             [**2131-9-25**]  02:37 AM
   WBC
   6.8
   9.1
   16.3
   Hct
   27.1
   26.0
   24.8
   Plt
   54
   82
   130
   Cr
   1.2
   1.2
   1.0
   1.0
   1.0
   TCO2
   30
   29
   30
   31
   36
   35
   Glucose
   128
   124
   125
   104
   Other labs: PT / PTT / INR:15.1/28.1/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:32/64, Alk Phos / T Bili:78/3.5, Differential-Neuts:71.0 %,
   Band:3.0 %, Lymph:8.0 %, Mono:13.0 %, Eos:1.0 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, LDH:356 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.3 mg/dL
   Fluid analysis / Other labs: Blood gas from [**9-25**]:
   153* 49* 7.45 35*
   Imaging: [**9-24**] Echo:  There is a moderate vegetation on the tricuspid
   valve (1.8 cm x 0.7 cm). Moderate [2+] tricuspid regurgitation is seen.
   There is moderate pulmonary artery systolic hypertension. There is a
   trivial/physiologic pericardial effusion.
   Compared with the prior study (images reviewed) of [**2131-9-21**], the
   severity of tricuspid regurgitation has decreased with slightly
   decrease size of the vegetation (previously at 2.1 cm x 1.0 cm). The
   right ventricular size has decrease with improved function.
   Overall left systolic function normal w/ EF of 55%.
   [**9-23**]:  CXR
   FINDINGS: Multifocal areas of alveolar opacification affecting the
   right lung
   to a greater degree than the left appear slightly worse in the interval
   within
   the right lung. Coexisting multifocal cavitary nodules are consistent
   with
   septic emboli. Moderate right pleural effusion is unchanged. Indwelling
   devices remain in standard position.
   Microbiology: 1) Gram + cocci in sputum, resp culture pending
   2) BCxs from [**9-17**]: Coag + Staph
   Repeated Bcx from [**9-18**] and [**9-19**] show no growth, [**9-23**] is pending
   3) Urine cx from [**9-17**] shows coag+ staph but repeated urine cxs on [**9-18**]
   show no growth
   Assessment and Plan
   57M w hx of IVDU, likely MRSA endocarditis with vegetations on
   tricuspid valve, septic emboli to lungs, spleen, bursitis in hip, MRSA
   in urine; CT surgery does not feel patient is an operative candidate.
   Cardiology recommends gentle diuresis if possible but believe prognosis
   is poor.
   1) endocarditis:  slight improvement in vegetation size and TR by echo
   yesterday, but patient continues to be febrile with rising white count
   to 16.
   - Continue vanc for likely MRSA endocarditis;  slight improvement in
   vegetation size but continues to be febrile
   - holding off on getting MRI given discussion yesterday
   - On lasix ttg 8 mg/hr:  goal is -1L daily; currently is -4 L; was on
   and off/pressors o/n so can consider slowing lasix gtt.
   -appreciate cards, ID, surgery recs
   .
   2) Respiratory status/sedation: currently intubated
   -Was switched from pressure support to CMV/ASSIST
   -maintain on sedation
   .
   3) persistent fevers: Has had continued fevers, also rise in WBC from
   9-> 16 in last 24 hours.
   Most likely this is [**1-29**] pulmonary abscesses, endocarditis and splenic
   abscesses. Could also have VAP given prolonged intubation.  Could
   consider reculturing blood + urine+sputum; can repeat CXR but would not
   escalate care given pending CMO status.
   .
   4) Tachycardia/ Worsening valve func: HRs continue to be 110 - 130.
   -Likely due to underlying sepsis.
   .
   5)  Acute renal failure: likely [**1-29**] poor forward flow with heart
   failure
   -Resolving, continue to monitor
   .
   6) Microcytic anemia:
   -Anemia of chronic disease, iron def anemia; no hemolysis; keep active
   T+S
   .
   7) Mild transaminitis:  likely from GB sludge, related to sepsis
   Liver abnormalities: Mildly elevated transaminases along with direct
   hyperbilirubinemia. RUQ US showed GB sludge.  Potentially from
   intrahepatic cholestasis from sepsis, hepatitis from infection.
   -hep c antibody positive. HCV PCR negative!
   -hep b core and surface antibody pos, c/w prior infection. pt should
   not get steroids unless absolutely necessary (and in that case may need
   ppx)
   .
   8) #FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   9) Prophylaxis: pneumoboots, lactulose, senna, colace
   .
    10) Access: IJ and axillary aline, holding off on PICC
   .
   11) Code: DNR;  ready to make CMO, awaiting approval from brother in
   [**Name2 (NI) **] and estranged children (daughter [**Name (NI) 8465**] [**Telephone/Fax (1) 8467**])
   : conference call tomorrow
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
    .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-25**] 04:12 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-26 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ID recs from yesterday: given rising white count and fevers  checking
   CBC with diff; sending of c diff from stool, repeating LFTs
   -ALT and AST trending up; alk phos also trending up; tbili okay
   -still on CMV/ASSIST with sedation
   -conference call with family planned for today
   -improvement in mental status: responsive to voice, some commands,
   opening eyes
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-25**] 07:52 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2131-9-25**] 01:25 PM
   Midazolam (Versed) - [**2131-9-25**] 01:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-26**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 36.6
C (97.9
   HR: 96 (92 - 124) bpm
   BP: 103/65(81) {90/57(68) - 152/91(113)} mmHg
   RR: 25 (22 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,594 mL
                                                                    961 mL
   PO:
             TF:
                                                                    842 mL
                                                                    259 mL
   IVF:
                                                                    792 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    830 mL
   Urine:
                                                                  2,290 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    304 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 36
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 60.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/19/69/31/-5
   Ve: 11 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   131 K/uL
   7.1 g/dL
   96 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   34 mg/dL
   109 mEq/L
   145 mEq/L
   23.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2131-9-23**]  05:07 PM
                             [**2131-9-23**]  05:18 PM
                             [**2131-9-24**]  03:11 AM
                             [**2131-9-24**]  05:44 PM
                             [**2131-9-24**]  06:03 PM
                             [**2131-9-25**]  02:18 AM
                             [**2131-9-25**]  02:37 AM
                             [**2131-9-25**]  02:55 PM
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
   WBC
   9.1
   16.3
   7.9
   Hct
   26.0
   24.8
   23.6
   Plt
   82
   130
   131
   Cr
   1.2
   1.0
   1.0
   1.0
   1.0
   0.9
   TCO2
   30
   31
   36
   35
   15
   Glucose
   124
   125
   104
   103
   96
   Other labs: PT / PTT / INR:15.5/28.1/1.4, CK / CKMB / Troponin-T:31//,
   ALT / AST:63/71, Alk Phos / T Bili:212/1.1, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   57M w hx of IVDU, likely MRSA endocarditis with vegetations on
   tricuspid valve, septic emboli to lungs, spleen, bursitis in hip, MRSA
   in urine; CT surgery does not feel patient is an operative candidate.
   Cardiology recommends gentle diuresis if possible but believe prognosis
   is poor.
   1) endocarditis: Clinically, improved over last 12 hours.  Has been
   afebrile for longest duration in several days; WBC count has improved
   from 16 to 8.   Mental status improved; consistently opening eyes to
   verbal cue, can slightly move head on command; not moving any other
   extremities on command.
   - Continuing vanc for likely MRSA endocarditis;  slight improvement in
   vegetation size and clinical improvement reassuring.
   -  On lasix ttg 8 mg/hr:  goal is -1L daily; currently is -4 L; was on
   and off/pressors o/n so can consider slowing lasix gtt.
   -appreciate cards, ID, surgery recs
   .
   2) Respiratory status/sedation: currently intubated
   -Was switched from pressure support to CMV/ASSIST
   -maintain on midazolam and fentanyl for sedation
   .
   3) Alk phos elevation: was 78 on [**9-19**]; yest 198 this AM 212.  AST
   and ALT have also trended up.  Total bilirubin unchanged.  Could be
   secondary to intrahepatic or posthepatic cholestasis in setting of
   sepsis or acalculous cholecystitis, although this seems less likely as
   still getting tube feeds.  Prior RUQ US showed
   -Consider repeating RUQ US; prior US from [**9-19**] showed evidence of
   biliary sludge + small stones.  Given goals of care, would hold off on
   imaging for now; continue to follow alk phos and AST/ALT trends; if
   bili starts to rise or labs worsen, consider imaging at that point.
   .
   4)   Tachycardia:  Improved w/ HRs in 90s - 100s; improvement likely
   secondary to resolution of fever, improvement in clinical status
   .
   5) Mild Hypotension - BPs this AM at 95/55.  BPs have been stable over
   the past 24 hours at 105 - 120s systolic; has been off pressors
   overnight.  Unclear as to the etiology.    No recent changes in
   sedation or in ventilator settings.    Possible its secondary to
   improvement in clinical status, resolution of fevers;
   -Fluid bolus of 500 cc NS this AM
   .
   6) #FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   9) Prophylaxis: pneumoboots, lactulose, senna, colace
   .
    10) Access: IJ and axillary aline, holding off on PICC
   .
   11) Code: DNR;  ready to make CMO, awaiting approval from brother in
   [**Name2 (NI) **] and estranged children (daughter [**Name (NI) 8465**] [**Telephone/Fax (1) 8467**])
   : conference call today
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
    .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-26**] 01:26 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-27 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Fungal and blood cultures sent
   - sedation increased due to pt discomfort, coughing with thick
   secretions.
   - hct 19.6.  transfused one unit
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-26**] 07:49 PM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2131-9-26**] 07:30 PM
   Fentanyl - [**2131-9-26**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-27**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.8
C (101.8
   HR: 121 (103 - 135) bpm
   BP: 104/63(79) {90/53(66) - 136/83(101)} mmHg
   RR: 24 (22 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 2 (2 - 6)mmHg
   Total In:
                                                                  3,166 mL
                                                                    521 mL
   PO:
   TF:
                                                                    844 mL
                                                                    257 mL
   IVF:
                                                                  1,413 mL
                                                                    221 mL
   Blood products:
                                                                     43 mL
   Total out:
                                                                  3,880 mL
                                                                    630 mL
   Urine:
                                                                  3,080 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -714 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 440 (440 - 440) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 10.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   143 K/uL
   6.1 g/dL
   92 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.4 mEq/L
   30 mg/dL
   111 mEq/L
   148 mEq/L
   20.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2131-9-24**]  03:11 AM
                             [**2131-9-24**]  05:44 PM
                             [**2131-9-24**]  06:03 PM
                             [**2131-9-25**]  02:18 AM
                             [**2131-9-25**]  02:37 AM
                             [**2131-9-25**]  02:55 PM
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
   WBC
   9.1
   16.3
   7.9
   5.1
   Hct
   26.0
   24.8
   23.6
   19.6
   20.2
   Plt
   82
   130
   131
   143
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   0.9
   TCO2
   31
   36
   35
   15
   Glucose
   124
   125
   104
   103
   96
   92
   Other labs: PT / PTT / INR:14.9/28.5/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:59/70, Alk Phos / T Bili:228/0.8, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR from this AM pending
   Microbiology: Coag + staph in blood and sputum from [**9-17**] and [**9-23**]
   repeat cxs pending
   Assessment and Plan
   Assessment and Plan
   57M w hx of IVDU, likely MRSA endocarditis with vegetations on
   tricuspid valve, septic emboli to lungs, spleen, bursitis in hip, MRSA
   in urine; CT surgery does not feel patient is an operative candidate.
   Cardiology recommends gentle diuresis if possible but believe prognosis
   is poor.
   1) endocarditis: Still continues to be febrile but leukocytosis has
   resolved with slight improvement in vegetation size on last echo.
   -Vanc trough in AM is 15:  increasing vanc dosing to 1 gm q12 IV
   -F/u repeat blood cxs -> sent for fungal, AFB
   -F/u repeat CXR
   -MRI ordered;
   .
   2) Respiratory status/sedation: currently intubated
   -Switch from assist to pressure support
   -increased midazolam and fentanyl for sedation given patient discomfort
   .
   3) Anemia: HCT has been trending down 23-> 19.  Got 1 Unit of blood
   this AM.  Repeat HCT this PM.  MCV is 77 suggesting microcytic, iron
   stores are low; however TIBC is also low and ferritin is high
   suggesting probably mixed iron deficiency anemia and anemia of chronic
   disease.
   -Repeat HCT this PM; if HCT < 20 tranfuse another 2 units
   -Fe studies are low but ferritin too high to be a co-existing iron
   deficiency with an anemia of chronic disease; would hold on iron
   supplementation for now
   .
   4) Hypernatremia:  Sodium rose to 148
   -Increase free water flushes 200q4 -> 250 q3.
   4) Alk phos elevation: Continue to trend; could be secondary to hepatic
   congestion, biliary sludge, stones.  Doesn't seem actively obstructed
   given normal total bilirubin.  Continue to follow.
   .
   4)   Tachycardia:  HRs 110s - 120s; has been a chronic issue, likely
   physiological response to continued fevers.
   .
   5) Mild Hypotension - BPs this AM at 95/55.  BPs have been stable over
   the past 24 hours at 105 - 120s systolic; has been off pressors
   overnight.  Unclear as to the etiology.    No recent changes in
   sedation or in ventilator settings.    Possible its secondary to
   improvement in clinical status, resolution of fevers;
   -Fluid bolus of 500 cc NS this AM
   .
   6) #FEN: IVF prn, replete electrolytes, OGT, tube feeds
   .
   9) Prophylaxis: pneumoboots, lactulose, senna, colace
   .
    10) Access: IJ and axillary aline, getting a power PICC
   -d/c axillary A-line
   .
   11) Code: DNR;  ready to make CMO, awaiting approval from brother in
   [**Name2 (NI) **] and estranged children (daughter [**Name (NI) 8465**] [**Telephone/Fax (1) 8467**])
   : talking to family today
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
    .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-27**] 05:46 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-9-17**] 05:31 AM
   Arterial Line - [**2131-9-17**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-28 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - power PICC line ordered, placed
   - ordered MRI head w/w/out GAD for prognostic value of possible septic
   emboli
   - switched from assist to pressure support
   - brother contact info [**Name (NI) **] [**Name (NI) 8446**] [**Telephone/Fax (1) 8536**] in [**State 842**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-27**] 08:00 PM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-28**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.4
C (101.1
   HR: 118 (100 - 126) bpm
   BP: 104/69(76) {94/58(67) - 145/94(105)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  3,057 mL
                                                                    649 mL
   PO:
   TF:
                                                                    840 mL
                                                                    276 mL
   IVF:
                                                                    907 mL
                                                                    173 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,000 mL
                                                                    950 mL
   Urine:
                                                                  2,700 mL
                                                                    950 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                     57 mL
                                                                   -301 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 440 (440 - 440) mL
   Vt (Spontaneous): 386 (386 - 694) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 16 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   7.8 g/dL
   99 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   25 mg/dL
   110 mEq/L
   145 mEq/L
   24.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2131-9-25**]  02:18 AM
                             [**2131-9-25**]  02:37 AM
                             [**2131-9-25**]  02:55 PM
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
   WBC
   16.3
   7.9
   5.1
   7.9
   Hct
   24.8
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   Plt
   130
   131
   143
   206
   Cr
   1.0
   1.0
   0.9
   0.9
   0.9
   TCO2
   35
   15
   Glucose
   104
   103
   96
   92
   99
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:31//,
   ALT / AST:59/70, Alk Phos / T Bili:228/0.8, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan
   57M w hx of IVDU, likely MRSA endocarditis with vegetations on
   tricuspid valve, septic emboli to lungs, spleen, bursitis in hip, MRSA
   in urine; CT surgery does not feel patient is an operative candidate.
   Cardiology recommends gentle diuresis if possible but believe prognosis
   is poor.
   1) endocarditis: Still continues to be febrile but leukocytosis has
   resolved with slight improvement in vegetation size on last echo.
   -Vanc trough in AM is 15:  increasing vanc dosing to 1 gm q12 IV
   -F/u repeat blood cxs -> sent for fungal, AFB
   -F/u repeat CXR
   -MRI ordered;
   .
   2) Respiratory status/sedation:  ABG:  pO2 44 pCO2  55 pH 7.36 HCO3 32
   on spontaneous
   -Currently on pressure support; repeat gases today; adequate RISB,
   spontaneous breathing trials; on PEEP of 10, weaning down.
   .
   3) Anemia: HCT has been trending down 23-> 19.  Got 1 Unit of blood
   yesterday AM. Repeat HCTs post-transfusion stable at 24.  Probably
   multifactorial: MCV is 77 suggesting microcytic, iron stores are low;
   however TIBC is also low and ferritin is high suggesting probably mixed
   iron deficiency anemia and anemia of chronic disease.
   -Guiaic all stools
   -Repeat HCT this PM; if HCT < 20 tranfuse another 2 units
   -Fe studies are low but ferritin too high to be a co-existing iron
   deficiency with an anemia of chronic disease; would hold on iron
   supplementation for now
   .
   4) Hypernatremia:  Sodium rose to 148
   -Increase free water flushes 200q4 -> 250 q3.
   -Nutrition following; they recommended watching how he does on free
   water flushes.  Na this AM is 145.  Continue flushes.
   4) Alk phos elevation: Continue to trend; could be secondary to hepatic
   congestion, biliary sludge, stones.  Doesn't seem actively obstructed
   given normal total bilirubin.  Continue to follow.
   .
   5)   Tachycardia:  HRs 110s - 120s; has been a chronic issue, likely
   physiological response to continued fevers.
   .
   6) #FEN: IVF prn, replete electrolytes, OGT, tube feeds.
   .
   9) Prophylaxis: pneumoboots, lactulose, senna, colace
   .
    10) Access: IJ and now power PICC placed
   -d/c axillary A-line yesterday
   .
   11) Code: DNR;  touching base w/ family regarding GOC, including
   brother in [**Name2 (NI) **] and estranged children (daughter [**Name (NI) 8465**]
   [**Telephone/Fax (1) 8467**]) : talking to family today
   .
   # Communication: Next of [**Doctor First Name **] ? [**Name (NI) **] [**Name (NI) 8369**], Mother, [**Telephone/Fax (1) 8370**] or ? his
   kids
    .
   # Disposition: pending above
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-9-28**] 02:58 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-9-27**] 03:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-29 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2131-9-28**] 09:30 PM
 FEVER - 101.5
C - [**2131-9-28**] 02:00 PM
   -extubated! repeating evening ABG
   -neuro exam:  is able to move distal extremities both upper and lower
   (toes, fingers) but has nearly 0 strength in flexors and extensors of
   proximal muscle groups; reflexes 2+, no upper motor neuron signs
   (babinski is negative, toes downgoing)
   -getting MRI head + c-spine
   -is NPO s/p extubation
   -touched base with daughter + her husband and updated them on his
   extubation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-28**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.8
   HR: 115 (106 - 131) bpm
   BP: 138/96(107) {120/74(88) - 148/97(107)} mmHg
   RR: 31 (18 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: -4 (-4 - 7)mmHg
   Total In:
                                                                  1,387 mL
                                                                    176 mL
   PO:
   TF:
                                                                    285 mL
   IVF:
                                                                    842 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                  1,040 mL
   Urine:
                                                                  2,830 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,743 mL
                                                                   -864 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 553 (553 - 553) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 10 L/min
   Physical Examination
   Gen: NAD
   CV: RRR, 4/6 systolic murmur at axilla
   Lungs: bilateral rales
   ABD: soft, NDNT, ABS
   Ext: 1+ edema 2+ pulses
   Neuro: alert and oriented to person and year.  Responds to commands but
   slowly.  Tongue deviates to the L but is able to to move tongue to the
   right on command.  Otherwise CN 2-12 intact.  Strength is limited in
   upper and lower extremities, but non focal.
   Labs / Radiology
   241 K/uL
   7.8 g/dL
   89 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   112 mEq/L
   145 mEq/L
   24.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  02:55 PM
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
   WBC
   7.9
   5.1
   7.9
   6.4
   Hct
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   Plt
   131
   143
   206
   241
   Cr
   1.0
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   15
   Glucose
   103
   96
   92
   99
   101
   89
   Other labs: PT / PTT / INR:14.5/27.7/1.3, Albumin:1.8 g/dL, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: VBG
   7.46/44/42/32  BaseXS 6
   Imaging: MRI: cspine - read pending
   Microbiology:   GRAM STAIN (Final [**2131-9-26**]):
   GRAM POSITIVE COCCI.
   IN PAIRS AND CLUSTERS,
   GRAM NEGATIVE ROD(S).
   Culture:
         STAPH AUREUS COAG +.    SPARSE GROWTH.  OF TWO COLONIAL
   MORPHOLOGIES.
   Blood cultures negative to date
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   Assessment and Plan
    57M w hx of IVDU, likely MRSA endocarditis with vegetations on
   tricuspid valve, septic emboli to lungs, spleen, bursitis in hip, MRSA
   in urine; CT surgery does not feel patient is an operative candidate.
   1) endocarditis: Still continues to be febrile but leukocytosis has
   resolved with slight improvement in vegetation size on last echo.
   -Vanc trough in AM is 28:  consider decreasing vanc dosing ot 750mg
   q12 IV
   -F/u repeat blood cxs -> sent for fungal, AFB
   - repeat BCx today
   - q8 neuro exams
   - PT
   - repeat CXR in AM
   2) PNA - Sputum cx pos for
   2) Respiratory status/sedation: extubated, maintaining sats with NC
   3) Anemia: HCT has been trending down slowly over the course of the
   admission.  Anemia is microcytic.  Iron studies suggest mixed iron def
   anemia and anemia of chronic disease.
   -Guiaic all stools
   -Fe studies are low but ferritin too high to be a co-existing iron
   deficiency with an anemia of chronic disease; would hold on iron
   supplementation for now
   #) Nourishment- Dobhoff placement, and restart tube feeds
   #) L hip pain
 pain is with some movements, particularly with passive
   hip flexion, but not consistent.  Internal and external rotation
   without difficulty, no tenderness to palpation.
   - joint infection unlikely.
   .
   4) Hypernatremia:
   -Increase free water flushes 200q4 -> 250 q3.
   -Nutrition following; they recommended watching how he does on free
   water flushes.  Na this AM is 145.  Continue flushes.
   4) Alk phos elevation: Continue to trend; could be secondary to hepatic
   congestion, biliary sludge, stones.  Doesn't seem actively obstructed
   given normal total bilirubin.  Continue to follow.
   5)   Tachycardia:  HRs 110s - 120s; has been a chronic issue, likely
   physiological response to continued fevers.
   6) #FEN: IVF prn, replete electrolytes, restart TF
   9) Prophylaxis: pneumoboots, lactulose, senna, colace, PPI
    10) Access: power PICC placed
   11) Code: Full Code
   # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-9-27**] 03:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-29 12:04:00 Physician Attending Progress Note
Chief Complaint: Tricuspid valve MRSA endocarditis with septic emboli
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2131-9-28**] 09:30 PM
 FEVER - 101.5
C - [**2131-9-28**] 02:00 PM
   Extubated since yesterday
   MRI head/c-spine suboptimal given motion
   Negative fluid balance
   Vancomycin increased to 1 gm q 12 hours for trough 15; trough this
   morning 22 so decreased again to 750
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-28**] 10:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   lactulose
   senna
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough, weak cough
   Genitourinary: Foley
   Musculoskeletal: Joint pain, left hip
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-9-29**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.3
C (97.4
   HR: 123 (106 - 131) bpm
   BP: 121/94(97) {121/74(88) - 143/97(107)} mmHg
   RR: 40 (18 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 66 kg
   Height: 70 Inch
   CVP: -4 (-4 - 7)mmHg
   Total In:
                                                                  1,387 mL
                                                                    265 mL
   PO:
   TF:
                                                                    285 mL
   IVF:
                                                                    842 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  3,130 mL
                                                                  1,860 mL
   Urine:
                                                                  2,830 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,743 mL
                                                                 -1,595 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): self and place, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   241 K/uL
   89 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   112 mEq/L
   145 mEq/L
   24.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  02:55 PM
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
   WBC
   7.9
   5.1
   7.9
   6.4
   Hct
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   Plt
   131
   143
   206
   241
   Cr
   1.0
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   15
   Glucose
   103
   96
   92
   99
   101
   89
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:82/84, Alk Phos / T Bili:279/1.1, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: Sputum GS:  GPC, GNR
   No new culture data
   Assessment and Plan
 TACHYCARDIA, OTHER:  Sinus tachycardia secondary to pain, anxiety.
 TRICUSPID VALVE ENDOCARDITIS:  MRSA on vancomycin.  Repeat
   surveillance cultures.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Septic emboli in setting
   of TV endocarditis, sputum positive for MRSA. Tolerated extubation,
   good sats 2L nasal cannula.  Weak cough, minimal gag.  Unable to get
   out of bed given diffuse weakness.  Nonfocal neuro exam so will hold
   off on MRI for now and follow exam.   PT consult.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 LEFT HIP PAIN:  Had been attributed to bursitis. With bactermia also
   need to consider septic joint.  Ortho to consult.  Consider lidocaine
   patch.
 CONSTIPATION:  Lactulose.
 HYPERNATREMIA:  OG tube out with ETT.  Replace NGT.  Monitor
   electrolytes and free water deficit for need for further free water
   replacement.
 NUTRITION:  Albumin 1.8.  Replace NGT for starting tube feeds,
   monitor residuals.
 ICU PROPHYLAXIS:   Start subcuatneous heparin
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-9-27**] 03:52 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes

2131-09-30 07:50:00 Physician Resident Progress Note
Chief Complaint: 57 yom with h/o past IVDU related endocarditis and
   lupus a/w MRSA endocarditis, now with severe TR and septic emboli to
   lungs, spleen and possibly brain.
   24 Hour Events:
   - patient extubated
   - patient spiked fever to 101.8 @ 1330
   - patient bloused 250 cc this AM for dropping UOP
   - MRI: limited study.  No hematoma or spinal cord compression.  Mild
   signal enhancement at C6-7 which if clinical suspicion warrants, should
   be further evaluated with repeat MR.  [**Name13 (STitle) **] MR not performed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-29**] 08:25 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-29**] 08:02 AM
   Heparin Sodium (Prophylaxis) - [**2131-9-29**] 11:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.3
C (97.4
   HR: 110 (110 - 130) bpm
   BP: 125/83(93) {121/82(93) - 147/101(110)} mmHg
   RR: 36 (23 - 42) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.6 kg (admission): 66 kg
   Height: 70 Inch
             Total In:
                                                                    800 mL
                                                                    424 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  3,253 mL
                                                                    780 mL
   Urine:
                                                                  3,253 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,453 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General: NAD, responsive, able to follow commands
   Lungs: CTAB, anterolateral fields
   Heart: systolic ejection murmur LPSB
   Abdomen: NTND, ABS
   Extremities: NT, no CCE, DP 2+
   Neuro: 3/5 strength upper and lower extremities
   Labs / Radiology
   296 K/uL
   8.1 g/dL
   87 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   22 mg/dL
   112 mEq/L
   144 mEq/L
   25.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
   WBC
   7.9
   5.1
   7.9
   6.4
   7.4
   Hct
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   Plt
   131
   143
   206
   241
   296
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.1
   TCO2
   15
   Glucose
   96
   92
   99
   101
   89
   87
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:82/84, Alk Phos / T Bili:279/1.1, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology
   - blood 10/3
 pending
   - catheter [**9-27**]
 negative
   - fungal blood 9/30
 NGTD
   - fungal sputum [**9-26**] - NGTD
   Imaging
   - MRI
 see above
   Assessment and Plan
   Assessment and Plan
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen and possible brain.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo
   - continue vancomycin 750 mg q12 with monitoring of daily vancomycin
   levels
   - consider repeat echo for evaluation of interval improvement from [**9-24**]
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated with good saturations on room air.
   - continue vancomycin 750 mg q12
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
   .
   # Hypernatremia:  Na levels stable this AM at 144.  Nutrition is
   following and recommend continued free water flushes for now.
   - continue free water flushes (150 q4) with tube feeds PRN
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.
   - continue to trend with QOD AP
   - consider repeat abdominal imaging
   - consider GGT to distinguish hepatic and non-hepatic source
   #  Tachycardia:  continue sinus tachycardia evaluated my cardiology.
   This likely represents a physiologic response to fever and compensation
   for severe TR.
   # FEN: IVF prn, replete electrolytes, restart TF once NG tube passed,
   speech and swallow to assess
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI
   # Access: power PICC placed
   # Code: Full Code
   # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-9-27**] 03:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-09-30 11:18:00 Physician Attending Progress Note
Chief Complaint: tricuspid endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.8
F - [**2131-9-29**] 01:30 PM
   Autodiuresing
   More alert this am
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-9-29**] 08:25 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-9-30**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-9-30**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-9-30**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.6
C (101.4
   HR: 117 (110 - 130) bpm
   BP: 133/92(101) {125/75(87) - 147/101(110)} mmHg
   RR: 38 (23 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.6 kg (admission): 66 kg
   Height: 70 Inch
             Total In:
                                                                    800 mL
                                                                    471 mL
   PO:
             TF:
   IVF:
                                                                    800 mL
                                                                    471 mL
   Blood products:
   Total out:
                                                                  3,253 mL
                                                                  1,100 mL
   Urine:
                                                                  3,253 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,453 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   296 K/uL
   87 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.4 mEq/L
   22 mg/dL
   112 mEq/L
   144 mEq/L
   25.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2131-9-25**]  05:00 PM
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
   WBC
   7.9
   5.1
   7.9
   6.4
   7.4
   Hct
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   Plt
   131
   143
   206
   241
   296
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.1
   TCO2
   15
   Glucose
   96
   92
   99
   101
   89
   87
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:82/84, Alk Phos / T Bili:279/1.1, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: No new culture data
   Assessment and Plan
 TACHYCARDIA, OTHER:  Sinus tachycardia secondary to pain, anxiety.

 TRICUSPID VALVE ENDOCARDITIS:  MRSA on vancomycin.  Repeat
   surveillance cultures yesterday.

 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Continues febrile. Last cultured yesterday. No growth to date.

 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Septic emboli in setting
   of TV endocarditis, sputum positive for MRSA. Continues extubated.
   Voice weak and weak cough, minimal gag.  Unable to get out of bed given
   diffuse weakness.  Nonfocal neuro exam so will hold off on MRI for now
   and follow exam.   PT consult.

 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Denies pain this morning.

 LEFT HIP PAIN:  Had been attributed to bursitis. With bactermia also
   need to consider septic joint.  Ortho to consult.  Consider lidocaine
   patch.

 CONSTIPATION:  Lactulose.

 HYPERNATREMIA:  Unable to replace NGT yesterday.  Monitor
   electrolytes and free water deficit for need for further free water
   replacement via IV.

 NUTRITION:  Remains a leading issues.  Patient with weak gag/cough,
   unclear if he would be able to eat on his own.  Speech and swallow
   evaluation.
   Albumin 1.8.  Likely will need placement of feeding tube.  Maintenance
   fluids.

 ICU PROPHYLAXIS:   Start subcuatneous heparin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-9-27**] 03:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2131-10-02 07:49:00 Physician Resident Progress Note
Chief Complaint: 57M w/ MRSA endocarditis and bacteremia with septic
   emboli to lungs, spleen with persistent fevers, severe TR and profound
   weakness.
   24 Hour Events:
 PICC LINE - START [**2131-10-1**] 10:52 AM
 FLUOROSCOPY - At [**2131-10-1**] 06:11 PM
   NGT placed
 PAN CULTURE - At [**2131-10-1**] 09:55 PM
 FEVER - 103.2
F - [**2131-10-1**] 08:00 PM
   IR for NG tube.
   Remained tachycardic 118 - 140  and tachypneic 24-45.  Particularly in
   the setting of fever.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-1**] 08:24 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2131-10-1**] 10:58 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-1**] 10:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-2**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.7
C (101.6
   HR: 120 (118 - 140) bpm
   BP: 109/86(91) {107/84(89) - 130/100(105)} mmHg
   RR: 28 (24 - 45) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 54 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                    578 mL
                                                                    229 mL
   PO:
             TF:
             103 mL
   IVF:
                                                                    578 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    620 mL
   Urine:
                                                                  1,535 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Cardiovascular: Gen: NAD, alert and oriented, responds to commands.  NG
   Tube in place
   Heart: RRR, [**3-2**] murmur at axilla
   Lungs: bibasilar rales
   Abd: ND/NT ABS
   Ext: 2+ distal edema, 2+ DP pulses
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   8.9 g/dL
   113 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.5 mEq/L
   27 mg/dL
   116 mEq/L
   148 mEq/L
   28.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2131-9-26**]  02:00 AM
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
   WBC
   7.9
   5.1
   7.9
   6.4
   7.4
   9.8
   Hct
   23.6
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   Plt
   131
   143
   206
   241
   296
   353
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   1.1
   1.2
   Glucose
   96
   92
   99
   101
   89
   87
   113
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Albumin:1.8 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: 10/5 blood cultures negative to date.
   [**2131-9-26**] 10:46 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2131-9-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin 750 mg q12, qod vanco troughs
   - treat fevers with Tylenol
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, requiring some oxygen per nasal cannula
   - continue vancomycin 750 mg q12
   - suction secretions
   - repeat sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Improving slightly, able to move slightly WITH gravity. Also
   with trouble projecting voice.
   - ENT c/s today
   - consider neuro c/s if no improvement
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
   # Hypernatremia:  Na levels up to 148 today.  Nutrition is following
   and recommend continued free water flushes.
   - continue free water flushes (200 q4) with tube feeds, may need to
   increase based on am labs
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - continue to trend with QOD AP
   - consider repeat abdominal imaging
   #  Tachycardia:  This likely represents a physiologic response to fever
   and compensation for severe TR.
   # FEN: speech and swallow - unable to take po safely, place
   post-pyloric NG tube and start tubefeeds with free water. Replete lytes
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI
   # Access: power PICC placed
   # Code: Full Code
   # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-10-2**] 12:28 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-03 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt pulled out NGT, ?aspirated TFs. Obtained CXR which showed XXX.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-2**] 09:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-10-2**] 08:17 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-2**] 09:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-3**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.6
C (101.4
   HR: 120 (117 - 131) bpm
   BP: 119/90(96) {108/74(86) - 128/96(104)} mmHg
   RR: 32 (23 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  1,081 mL
                                                                    175 mL
   PO:
             TF:
                                                                    581 mL
   IVF:
                                                                    500 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    760 mL
   Urine:
                                                                  1,600 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -519 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   345 K/uL
   8.8 g/dL
   151 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.3 mEq/L
   30 mg/dL
   117 mEq/L
   150 mEq/L
   28.8 %
   8.6 K/uL
        [image002.jpg]
                             [**2131-9-27**]  03:00 AM
                             [**2131-9-27**]  04:28 AM
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
   WBC
   5.1
   7.9
   6.4
   7.4
   9.8
   8.6
   Hct
   19.6
   20.2
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   28.8
   Plt
   143
   206
   241
   296
   353
   345
   Cr
   0.9
   0.9
   1.0
   1.0
   1.1
   1.2
   1.2
   Glucose
   92
   99
   101
   89
   87
   113
   151
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.4
   mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin 750 mg q12, qod vanco troughs
   - treat fevers with Tylenol
   - no need for MRI as not prognosticating at this time
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, requiring some oxygen per nasal cannula
   - continue vancomycin 750 mg q12
   - suction secretions
   - repeat sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Improving slightly, able to move slightly WITH gravity. Also
   with trouble projecting voice.
   - F/u ENT recs: will continue to follow and will look again once
   secretions have cleared
   - consider neuro c/s if no improvement
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
   # Hypernatremia:  Na levels up to 148 today.  Nutrition is following
   and recommend continued free water flushes.
   - NG tube was replaced; getting free water flushes 200 q4
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - In setting of AP elevations and LFT elevations and fevers, repeating
   RUQ US
   #  Tachycardia:  This likely represents a physiologic response to fever
   and compensation for severe TR.
   # FEN: speech and swallow - unable to take po safely: needs replacement
   of post-pyloric NG tube and start tubefeeds with free water. Replete
   lytes
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-04 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2131-10-3**] 11:21 AM
   dobhoff placed-(pulled out NGT last night)
 ULTRASOUND - At [**2131-10-3**] 04:33 PM
   liver gallbladder
 FEVER - 103.2
F - [**2131-10-3**] 11:00 PM
   - patient pulled out NGT with possible aspiration of tube feeds, CXR
   obtained, no new infiltrate, patient comfortable and normal sats
   - NGT replaced and free water flushes re-started for hypernatremia
   - NG tube pulled out again this morning.
   - RUQ-US for rising LFT's: liver with normal echotexture, normal blood
   flow, numerous small stones in GB c/w cholelithiasis.  Numerous lesions
   throughout the spleen including a large 3.9 cm solid and cystic lesion
   - screening for rehab placement initiated
   - vancomycin changed to 1250 q day per pharmacy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-3**] 09:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-10-3**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-3**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-4**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.2
C (100.8
   HR: 117 (112 - 140) bpm
   BP: 115/86(93) {107/80(87) - 120/97(100)} mmHg
   RR: 28 (26 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
                  Total In:
                                                                  1,579 mL
                                                                    623 mL
   PO:
                  TF:
                                                                    442 mL
                                                                    223 mL
   IVF:
                                                                    537 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    260 mL
   Urine:
                                                                  1,630 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Cardiovascular: Gen: NAD
   Cardiac: RRR, Nl S1 and S2.  harsh 3/6 systolic murmur at axilla
   Lungs: biltaral crackles at bases
   Ext: 1+ edema, 2+ DP pulses
   MSK:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   8.9 g/dL
   122 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.4 mEq/L
   31 mg/dL
   123 mEq/L
   155 mEq/L
   28.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
   WBC
   7.9
   6.4
   7.4
   9.8
   8.6
   10.1
   Hct
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 8626**]53
   345
   315
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   Glucose
   99
   101
   89
   87
   113
   151
   106
   122
   Other labs: PT / PTT / INR:14.5/27.7/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: Abdominal U/S - Numerous lesions throughout the spleen
   including a large 3.9 cm solid and cystic lesion. Cholelithiasis.
   Right pleural effusion
   Microbiology: [**9-17**] - + MRSA Bacteremia/Bacteruria
   + MRSA sputum - [**9-26**]
   All remaining blood cultures have been negative to date.  No fungal or
   mycobacterial growth in blood.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin 1250 mg qday, daily vanco troughs with  new
   dosing.
   - treat fevers with Tylenol
   #Fevers, increasing white count - endocarditis is the main suspect
   causing fevers.  However, in light of new finding of abdominal U/S
   Splenic abscess possible, particularly given known septic emboli to the
   spleen.  Continue workup of new or hospital acquired infections.
   - no attempt at drainage given high disease burden,  Pt has multiple
   absesses in his lungs as well
   - rpt sputum and urine cultures
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, requiring some oxygen per nasal cannula
   - continue vancomycin
   - suction secretions
   - f/u sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Improving slightly, able to move against gravity if
   encourage.  Also with trouble projecting voice.  Has been working with
   PT to get out of bed to chair.
   - F/u ENT recs: will continue to follow and will look again once
   secretions have cleared
   - consider neuro c/s if no improvement
   - daily PT, outpt PT
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
   #Worsening renal function - Pt is getting TF  + 1200cc of free water.
   Fever increases H20 losses through skin.
   - start mainenance fluids at 75 cc/hr
   # Hypernatremia:  Na levels up to 155 today.  Nutrition is following
   and recommend continued free water flushes.
   - NG tube was replaced; getting free water flushes 200 q4
   - D5 1/2 NS maintanance fluid
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - RUQ US c/w cholelithiasis
   #  Tachycardia:  This likely represents a physiologic response to fever
   and compensation for severe TR.
   # FEN: speech and swallow - unable to take po safely, replace NG tube
   with IR.  NG tubefeeds + free water boluses.  Replete lytes
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-10-4**] 01:35 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-04 12:32:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FLUOROSCOPY - At [**2131-10-3**] 11:21 AM
   dobhoff placed-(pulled out NGT last night)
 ULTRASOUND - At [**2131-10-3**] 04:33 PM
   liver gallbladder
 FEVER - 103.2
F - [**2131-10-3**] 11:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-4**] 06:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-4**] 08:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2131-10-4**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 38.6
C (101.5
   HR: 130 (112 - 140) bpm
   BP: 120/94(100) {107/80(87) - 120/97(102)} mmHg
   RR: 39 (26 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  1,579 mL
                                                                    965 mL
   PO:
             TF:
                                                                    442 mL
                                                                    215 mL
   IVF:
                                                                    537 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,630 mL
                                                                    970 mL
   Urine:
                                                                  1,630 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -51 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**3-2**]
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : ), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, [**4-1**] motor strength
   Labs / Radiology
   8.9 g/dL
   315 K/uL
   122 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.4 mEq/L
   31 mg/dL
   123 mEq/L
   155 mEq/L
   28.7 %
   10.1 K/uL
        [image002.jpg]
                             [**2131-9-27**]  12:40 PM
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
   WBC
   7.9
   6.4
   7.4
   9.8
   8.6
   10.1
   Hct
   22.6
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 8626**]53
   345
   315
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   Glucose
   99
   101
   89
   87
   113
   151
   106
   122
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR--no new
   Microbiology: Cultures-->
   BC-MRSA on [**9-17**]
   Sputume-_MRSA [**9-26**]
   Assessment and Plan
   57 yo male with admission with endocarditis and now with improvement in
   respiratory status to room air breathing, has had slow to improve
   weakness and has had persistent issue of capacity to tolerate po
   intake.  He has had persistent fever, tachycardia and tachypnea but
   without evidence of clear source.
   1)Sepsis/Endocarditis-Persistent and intermittent fevers, some decrease
   in vegetation size
   -Vancomycin to continue
   -Will need continued chronic support with antibiotics
   -Will continue to treat for pulmonary infection with ABX and chest PT
   as needed
   2)Weakness--Likely critical illness polyneuropathy
the concern is that
   he has inability to maintain safe po intake and will need a feeding
   tube for access
be it G-tube or NGT.
   -Continue PT
   -Will replace feeding tube
   -Will need to continue with chest PT and suctioning
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   ICU Care
   Nutrition: He is npo now with inability to maintain safe po intake
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To rehab given stability across time despite fevers
   Total time spent: 38

2131-10-05 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2131-10-4**] 03:49 PM
 FEVER - 101.9
F - [**2131-10-5**] 12:00 AM
   -Went down for dobouff tube placement (X3) and became combative and
   tachycardic so IR did not put it in
   -giving him D5W for his Na of 155
   -complained of hip pain on left side; gave him tylenol.
   -ID: recs consulting general surgery for splenectomy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-4**] 06:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-4**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-5**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.7
C (101.6
   HR: 115 (114 - 147) bpm
   BP: 100/75(81) {100/75(81) - 121/104(107)} mmHg
   RR: 27 (20 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  1,826 mL
                                                                    385 mL
   PO:
             TF:
                                                                    215 mL
   IVF:
                                                                  1,211 mL
                                                                    385 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    395 mL
   Urine:
                                                                  1,680 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Cardiovascular: gen: NAD, unable to produce voice
   CV: [**3-2**] harsh systolic murmur at axilla
   Lungs: crackles at bases bilaterally
   Abd: soft, ND, NT +BS
   Ext: no c/c/e
   MSK: [**4-1**] strenth in upper and lower extremities, but unable to sustain
   for short periods.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   353 K/uL
   8.4 g/dL
   103 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   28 mg/dL
   121 mEq/L
   152 mEq/L
   27.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
   WBC
   7.9
   6.4
   7.4
   9.8
   8.6
   10.1
   11.7
   Hct
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   27.7
   Plt
   [**Telephone/Fax (3) 8626**]53
   345
   315
   353
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   1.3
   Glucose
   99
   101
   89
   87
   113
   151
   106
   122
   103
   Other labs: PT / PTT / INR:14.7/26.2/1.3, Albumin:1.8 g/dL, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Vanco trough (1:58am) - 18.2
   Imaging: no imaging
   Microbiology: Blood cultures, sputum cultures negative to date.
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin 1250 mg qday, daily vanco troughs with  new
   dosing.
   - treat fevers with Tylenol
   #Fevers, increasing white count - endocarditis is the main suspect
   causing fevers.  However, in light of new finding of abdominal U/S
   Splenic abscess possible, particularly given known septic emboli to the
   spleen.  Continue workup of new or hospital acquired infections as
   appropriate.
   - no attempt at drainage/spenectomy given high disease burden,  Pt has
   multiple absesses in his lungs also
   - rpt sputum and urine cultures
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, requiring some oxygen per nasal cannula
   - continue vancomycin
   - suction secretions
   - f/u sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Improving slightly, able to move against gravity if
   encourage.  Also with trouble projecting voice.  Has been working with
   PT to get out of bed to chair.
   - daily PT, outpt PT
   #inability to speak - ENT has seen his vocal cords and noted no
   physical abnormalities.  Likely due to weakness as above, and excess
   secretions.   Pt seems frustrated by this, and has become agitated at
   times.
   - c/s social work
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
s (27.7)
   #Worsening renal function -   Fever increases insensible losses through
   skin.
   - start mainenance fluids at 75 cc/hr D5W
   - if still worsening, urine lytes tomorrow
   # Hypernatremia:  Na levels up to 155 today.  Nutrition is following
   and recommend continued free water flushes.
   - D5 1/2 NS maintanance fluid
   #L hip pain - bursitis.  No pain with joint examination except direct
   palpation.
   - Continue analgesics.  Lidocaine patch, tylenol.
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - RUQ US c/w cholelithiasis
   #  Tachycardia:  This likely represents a physiologic response to fever
   and compensation for severe TR.
   # FEN: Unable to pass speech and swallow.  Refuses NG tube.  Attempt
   PEG placement.  Replete lytes
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI not indicated
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Dispo
 eval for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-05 11:24:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   Critical Illness Polyneuropathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FLUOROSCOPY - At [**2131-10-4**] 03:49 PM
 FEVER - 101.9
F - [**2131-10-5**] 12:00 AM
   -Patient refuse NGt placement yesterday.  Refused G-tube placement
   yesterday
   -No vocal cord paralysis
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-5**] 08:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-5**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-5**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.2
C (100.8
   HR: 109 (109 - 147) bpm
   BP: 112/81(89) {100/75(81) - 121/104(107)} mmHg
   RR: 25 (20 - 44) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  1,826 mL
                                                                    937 mL
   PO:
             TF:
                                                                    215 mL
   IVF:
                                                                  1,211 mL
                                                                    937 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    835 mL
   Urine:
                                                                  1,680 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    146 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, Motor [**4-1**] with
   encouragement today
   Labs / Radiology
   8.4 g/dL
   353 K/uL
   103 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   28 mg/dL
   121 mEq/L
   152 mEq/L
   27.7 %
   11.7 K/uL
        [image002.jpg]
                             [**2131-9-27**]  05:47 PM
                             [**2131-9-28**]  03:30 AM
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
   WBC
   7.9
   6.4
   7.4
   9.8
   8.6
   10.1
   11.7
   Hct
   24.1
   24.8
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   27.7
   Plt
   [**Telephone/Fax (3) 8626**]53
   345
   315
   353
   Cr
   0.9
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   1.3
   Glucose
   99
   101
   89
   87
   113
   151
   106
   122
   103
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   57 yo with admission for infective endocarditis with hospital course
   now notable for persistent weakness and patient refusal of NGT
   placement or G-tube placement.
   1)Endocarditis-
   -WIll continue evaluation for possible splenectomy
   -Continue Vanco and will need to adjust dosing
   -Follow fever curve
   -Will repeat LFT
s and sputum culture
   -Will discuss possible splenectomy with general surgery in the setting
   of abscess
   2)Weakness-critical illness polyneuropathy
   -npo
   -Vocal cord exam unremarkable
   -Will continue with PT
   ICU [**Name (NI) 232**]
   Nutrition: Patient unable to safely take po
will need Enteral access to
   allow nutrition but patient is refusing.  Will enlist family members.
   [**Name (NI) **] does describe understanding that without feeding tube he will
   not get better but still refuses.  Could consider PPN
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To floor for further care if continued stability seen
   with fever and tachycardia
   Total time spent: 38

2131-10-06 07:02:00 Physician Resident Progress Note
Chief Complaint: 57M w/ MRSA endocarditis and bacteremia with septic
   emboli to lungs, spleen with persistent fevers, severe TR and profound
   weakness.
   24 Hour Events:
   - Vanco trough drawn inappropriately, will have to redose vanco based
   on AM trough
   - Gen [**Doctor First Name **] consulted regarding splenectomy.  Said not best option given
   risk and high disease burden it would not be curative.
   - Pt started on D5W for maintenance and hypernatremia
   - Pt does not want NG tube or PEG.  He wants to eat.
   - No new culture results.
   -AM labs today (listed below) showed markedly decreased sodium and
   increased glucose.  Lab called later in the morning to notify that this
   sample was an error.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-5**] 08:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-5**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-6**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 99 (99 - 116) bpm
   BP: 113/84(93) {103/77(84) - 128/90(99)} mmHg
   RR: 22 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,313 mL
                                                                    775 mL
   PO:
             TF:
   IVF:
                                                                  2,313 mL
                                                                    775 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    300 mL
   Urine:
                                                                  1,450 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    863 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   314 K/uL
   7.5 g/dL
   346 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.1 mEq/L
   21 mg/dL
   107 mEq/L
   136 mEq/L
   25.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
   WBC
   6.4
   7.4
   9.8
   8.6
   10.1
   11.7
   7.9
   Hct
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   27.7
   25.4
   Plt
   241
   296
   353
   [**Telephone/Fax (3) 8648**]
   314
   Cr
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   1.3
   1.1
   1.1
   Glucose
   101
   89
   87
   113
   151
   106
   122
   103
   103
   346
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.8
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin
 1250 yesterday, today
s trough (2 hours before
   dose) was 14.8.  Increase vancomycin to 1500 today.
   - treat fevers with Tylenol
   #Fevers, increasing white count - endocarditis is the main suspect
   causing fevers.  However, in light of new finding of abdominal U/S
   Splenic abscess possible, particularly given known septic emboli to the
   spleen.  Continue workup of new or hospital acquired infections as
   appropriate.
   - discussed with surgery, advised that splenectomy would not be
   beneficial.
   - rpt sputum and urine cultures.
   -continue to follow pending cultures.
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, no longer needed oxygen.
   - continue vancomycin
   - suction secretions
   - f/u sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Continues to improve today
 still weak, but better, and able
   to speak softly but clearly.  Has been working with PT to get out of
   bed to chair.
   - daily PT, outpt PT
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
 today 25.4 from 27.7 yesterday.
   Will continue to follow closely.
   # Renal function -   increase in creatinine two days ago, now improved
   to 1.1.
   - started maintenance fluids at 75 cc/hr D5W, increased to 100/hr.
   Fluids were held this morning when labs came back with low sodium and
   high glucose.  However, repeat chem 7 showed sodium 146, normal
   glucose.  D5W was restarted.
   # Hypernatremia:  Sodium levels decreased but still above normal.
   Continue D5W maintenance today.
   #L hip pain - bursitis.  No pain with joint examination except direct
   palpation.
   - Continue analgesics.  Lidocaine patch, tylenol.
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - RUQ US c/w cholelithiasis
   #  Tachycardia:  This likely represents a physiologic response to fever
   and compensation for severe TR.
   # FEN: Has been unable to pass speech and swallow to this point,
   although he is overall improved today, has tolerated ice chips.
   Absolutely refuses NG tube and PEG tube.  Will attempt to re-evaluate
   speech/swallow, advance diet as possible.
   # Prophylaxis: pneumoboots, SQH, bowel regimen, PPI not indicated
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Dispo
 ICU, eval for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2131-10-06 09:11:00 Physician Attending Progress Note
Chief Complaint: Endocarditis, MRSA bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels well this AM
   24 Hour Events:
   T max of 100.8 overnight
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-5**] 08:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-6**] 07:56 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Musculoskeletal: Joint pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-10-6**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.7
   HR: 111 (99 - 116) bpm
   BP: 111/88(93) {103/77(84) - 128/90(99)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,355 mL
                                                                  1,092 mL
   PO:
             TF:
   IVF:
                                                                  2,355 mL
                                                                  1,092 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    450 mL
   Urine:
                                                                  1,450 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    905 mL
                                                                    642 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   314 K/uL
   346 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.1 mEq/L
   21 mg/dL
   107 mEq/L
   136 mEq/L
   25.4 %
   7.9 K/uL
        [image002.jpg]
                             [**2131-9-28**]  05:50 PM
                             [**2131-9-29**]  03:35 AM
                             [**2131-9-30**]  02:11 AM
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
   WBC
   6.4
   7.4
   9.8
   8.6
   10.1
   11.7
   7.9
   Hct
   24.3
   24.8
   25.8
   28.3
   28.8
   28.7
   27.7
   25.4
   Plt
   241
   296
   353
   [**Telephone/Fax (3) 8648**]
   314
   Cr
   1.0
   1.0
   1.1
   1.2
   1.2
   1.3
   1.2
   1.3
   1.1
   1.1
   Glucose
   101
   89
   87
   113
   151
   106
   122
   103
   103
   346
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:136/132, Alk Phos / T Bili:293/0.9, Differential-Neuts:88.4
   %, Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.8
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57 yo with admission for infective endocarditis with hospital course
   now notable for persistent weakness and patient refusal of NGT
   placement or G-tube placement.
   1)Endocarditis-
   Splenectomy not indicated at this time per surgery
   Cont vanco - follow throughs
   2)Weakness-critical illness polyneuropathy
   -Reevaluate swallow function
   -Stength slowly improvimg
   3)Sodium: Went from 150 to 136 --> ? lab error
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2131-10-07 05:30:00 Physician Resident Progress Note
Chief Complaint: 57M w/ MRSA endocarditis and bacteremia with septic
   emboli to lungs, spleen with persistent fevers, severe TR and profound
   weakness.
   24 Hour Events:
   -morning chem 7 values were dramatically different from previous
   evening's - lab called to report that this sample may have been an
   error.
   -error was not known initially, so D5W was held, for markedly decreased
   sodium and increased glucose.
   -repeat chem 7 at 0930 showed markedly different values - D5W
   restarted.
   -Significantly improved strength, able to speak.
   -Tolerated applesauce in am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-6**] 08:32 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-6**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-7**] 05:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 109 (92 - 119) bpm
   BP: 107/82(87) {99/80(84) - 130/96(100)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 52.2 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,559 mL
                                                                    442 mL
   PO:
             TF:
   IVF:
                                                                  2,559 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    300 mL
   Urine:
                                                                  1,380 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   7.4 g/dL
   345 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   17 mg/dL
   111 mEq/L
   140 mEq/L
   25.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2131-10-2**]  12:06 AM
                             [**2131-10-3**]  01:58 AM
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
                            [**2131-10-6**]  09:30 AM
                            [**2131-10-6**]  06:30 PM
                            [**2131-10-7**]  03:11 AM
   WBC
   9.8
   8.6
   10.1
   11.7
   7.9
   7.4
   Hct
   28.3
   28.8
   28.7
   27.7
   25.4
   25.0
   Plt
   353
   345
   315
   353
   314
   315
   Cr
   1.2
   1.2
   1.3
   1.2
   1.3
   1.1
   1.1
   1.0
   1.0
   1.0
   Glucose
   113
   151
   106
   122
   103
   103
   346
   85
   88
   345
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:60/46, Alk Phos / T Bili:247/0.6, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin
 1500 given yesterday.   Vanco level 24, but
   drawn early.
   - treat fevers with Tylenol
   #Fevers, increasing white count - endocarditis is the main suspect
   causing fevers.  However, in light of new finding of abdominal U/S
   Splenic abscess possible, particularly given known septic emboli to the
   spleen.  Continue workup of new or hospital acquired infections as
   appropriate.   White count normal today.
   - discussed with surgery, advised that splenectomy would not be
   beneficial.
   - rpt sputum and urine cultures.
   -continue to follow pending cultures.
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, no longer needed oxygen.
   - continue vancomycin
   - suction secretions
   - f/u sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Continues to improve today
 still weak, but better, and able
   to speak softly but clearly.  Has been working with PT to get out of
   bed to chair.
   - daily PT, outpt PT
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
 stable today.
   # Renal function -   remains stable, creatinine 1.0 today.
   - D5W maintenance yesterday with good resolution of hypernatremia.  Now
   with increased blood glucose.  Will hold D5W for now.
   # Hypernatremia:  resolved as above.
   #L hip pain - bursitis.  No pain with joint examination except direct
   palpation.
   - Continue analgesics.  Lidocaine patch, tylenol.
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - RUQ US c/w cholelithiasis
   #  Tachycardia:  Stable - This likely represents a physiologic response
   to fever and compensation for severe TR.
   # FEN: Has been unable to pass speech and swallow to this point,
   although he is overall improved today, has tolerated ice chips.
   Absolutely refuses NG tube and PEG tube.  Will attempt to re-evaluate
   speech/swallow, advance diet as possible.  Yesterday per nursing he did
   tolerate applesauce, given carefully over several hours.  However, with
   water he still coughs with small sips.
   # Prophylaxis: pneumoboots, SQH, bowel regimen, will start H2 blocker.
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Dispo
 ICU, eval for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-10-07 09:24:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to have no complaints
   24 Hour Events:
   Tolerated applesauce yesterday but noted to cough with thin liquids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-7**] 07:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-10-7**] 07:59 AM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-10-7**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 107 (92 - 119) bpm
   BP: 117/88(91) {99/80(84) - 130/96(100)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,559 mL
                                                                  1,028 mL
   PO:
             TF:
   IVF:
                                                                  2,559 mL
                                                                  1,028 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    610 mL
   Urine:
                                                                  1,380 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   315 K/uL
   88 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.3 mEq/L
   16 mg/dL
   113 mEq/L
   143 mEq/L
   25.0 %
   7.4 K/uL
        [image002.jpg]
                             [**2131-10-3**]  07:25 PM
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
                            [**2131-10-6**]  09:30 AM
                            [**2131-10-6**]  06:30 PM
                            [**2131-10-7**]  03:11 AM
                            [**2131-10-7**]  05:08 AM
                            [**2131-10-7**]  07:45 AM
   WBC
   10.1
   11.7
   7.9
   7.4
   Hct
   28.7
   27.7
   25.4
   25.0
   Plt
   [**Telephone/Fax (3) 8661**]15
   Cr
   1.3
   1.2
   1.3
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   Glucose
   106
   122
   103
   103
   346
   85
   88
   345
   120
   88
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:60/46, Alk Phos / T Bili:247/0.6, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57 yo with admission for infective endocarditis with hospital course
   now notable for persistent weakness and patient refusal of NGT
   placement or G-tube placement.
   1)Endocarditis-
   Cont vanco.  Continues to slowly improve.  Splenic infarct - but no
   intervention required at this time
   2)Weakness-critical illness polyneuropathy
   -Tolerating thickened liquids/applesause.  Formal swallow study
   Tuesday.  Continues to slowly improve.
   3)Sodium: Na normalizing --> has had electrolyte lab error the last 2
   days, but most recent value accurate.
   -D5 1/2 NS
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2131-10-08 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**10-6**]
   -morning chem 7 values were dramatically different from previous
   evening's - lab called to report that this sample may have been an
   error.
   -error was not known initially, so D5W was held, for markedly decreased
   sodium and increased glucose.
   -repeat chem 7 at 0930 showed markedly different values - D5W
   restarted.
   -Significantly improved strength, able to speak.
   -Tolerated applesauce in am.
   [**10-7**]
   -initially AM glucose showed up at 345; repeat electrolytes, including
   sugars, were normal, am electrolytes also normal
   -started H2 blocker
   -vanc trough high 24.1, trough in am 16.4
   -t-piece all day yesterday, sat up in chair all day yesterday and slept
   overnight
   -continues to tolerate thickened diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-7**] 08:26 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-10-7**] 10:41 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-7**] 02:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 90 (90 - 122) bpm
   BP: 99/77(81) {99/77(81) - 137/99(108)} mmHg
   RR: 25 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.9 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,589 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                  2,589 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    260 mL
   Urine:
                                                                  1,700 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    889 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   315 K/uL
   7.5 g/dL
   91 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   13 mg/dL
   109 mEq/L
   138 mEq/L
   24.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
                            [**2131-10-6**]  09:30 AM
                            [**2131-10-6**]  06:30 PM
                            [**2131-10-7**]  03:11 AM
                            [**2131-10-7**]  05:08 AM
                            [**2131-10-7**]  07:45 AM
                            [**2131-10-8**]  03:41 AM
   WBC
   10.1
   11.7
   7.9
   7.4
   8.7
   Hct
   28.7
   27.7
   25.4
   25.0
   24.2
   Plt
   [**Telephone/Fax (3) 8661**]15
   315
   Cr
   1.2
   1.3
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   1.0
   Glucose
   122
   103
   103
   346
   85
   88
   [**Telephone/Fax (2) 8684**]
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:60/46, Alk Phos / T Bili:247/0.6, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Microbiology: Blood Culture, Routine (Final [**2131-10-7**]):    NO GROWTH x3
   URINE CULTURE (Final [**2131-10-3**]):    NO GROWTH.
   URINE CULTURE (Final [**2131-10-2**]):    NO GROWTH.
   [**2131-9-26**] 10:46 am SPUTUM     Site: ENDOTRACHEAL
         Source: Endotracheal.
      GRAM STAIN (Final [**2131-9-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2131-9-29**]):
         Commensal Respiratory Flora Absent.
         STAPH AUREUS COAG +.    SPARSE GROWTH.  OF TWO COLONIAL
   MORPHOLOGIES.
            Oxacillin RESISTANT Staphylococci MUST be reported as also
            RESISTANT to other penicillins, cephalosporins, carbacephems,
            carbapenems, and beta-lactamase inhibitor combinations.
            Rifampin should not be used alone for therapy.
         YEAST.    RARE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   CLINDAMYCIN-----------<=0.25 S
   ERYTHROMYCIN----------<=0.25 S
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------<=0.12 S
   OXACILLIN-------------   =>4 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
      LEGIONELLA CULTURE (Final [**2131-10-3**]):    NO LEGIONELLA ISOLATED.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
   57M w/ MRSA endocarditis and bacteremia with septic emboli to lungs,
   spleen with persistent fevers, severe TR and profound weakness.  Now
   improving, fevers reduced, weakness improved.
   # Endocarditis: continued intermittent fever spikes but improvement in
   vegetation size demonstrated by last echo. HR and RR increase with
   fevers.
   - continue vancomycin
 Vanco level 24 yesterday, but drawn very early,
   repeat level at trough 16.  Trough rechecked per pharmacy recs:
   - treat fevers with Tylenol
 afebrile x24hrs
   #Fevers, increasing white count - endocarditis is the main suspect
   causing fevers.   White count normal today.
   -blood cultures from [**10-7**] no growth x3, urine cultures 10.6 and [**10-3**]
   no growth
   # MRSA Pneumonia: secondary to septic emboli from endocarditis.
   Patient now extubated, no longer needed oxygen.
   - continue vancomycin
   - suction secretions
   - f/u sputum cx
   # Weakness: Likely myopathy from prolonged ICU course and serious
   illness. Continues to improve today
 still weak, but better, and able
   to speak softly but clearly.  Has been working with PT, was of bed to
   chair.
   - daily PT, outpt PT
   -steadily improving
   # Anemia: patient has demonstrated episodes throughout admission when
   HCT has trended down.  Labs suggest this is multifactorial as
   microcytic picture with elevated ferritin (possibly acute phase
   reactant)
   - continue to trend with daily HCT
s, today 24.2 (25 yesterday).
   # Renal function -   remains stable, creatinine 1.0 today.
   - D5 [**12-29**] normal maintenance yesterday with good resolution of
   hypernatremia.  Now stable on normal saline.
   # Hypernatremia:  resolved as above.
   #L hip pain - bursitis.  No pain with joint examination except direct
   palpation.
   - Continue analgesics as needed.  Lidocaine patch, tylenol.
   # LFT
s:  Aminases remain slightly elevated but stable since admission
   while AP continues to trend up in the setting of a normal and stable
   BR.  This may be secondary to hepatic congestion from severe TR,
   possible septic emboli to liver, or non-hepatic source of AP (bone).
   Obstructive picture is not convincing as BR remains normal.  Elevated
   GGT indicated hepatic source.
   - RUQ US c/w cholelithiasis
   #  Tachycardia:  Stable - This likely represents a physiologic response
   to fever and compensation for severe TR.
   # FEN: Has been unable to pass speech and swallow to this point, but
   has tolerated thickened foods well x2d, given cautiously.  Absolutely
   refuses NG tube and PEG tube.  Will attempt to formally re-evaluate
   speech/swallow when available, advance diet as possible.  However, with
   water he still coughs with small sips.
   # Prophylaxis: pneumoboots, SQH, bowel regimen, will start H2 blocker.
   # Access: power PICC placed
    # Code: Full Code
    # Communication: Sister [**Name (NI) 142**]
 Health Care Proxy, info in chart
   # Dispo
 ICU, eval for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-10-08 12:13:00 Physician Attending Progress Note
Chief Complaint: Endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did well overnight
   24 Hour Events:
   no events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-10-8**] 08:22 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-10-8**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2131-10-8**] 08:22 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-10-8**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 107 (90 - 122) bpm
   BP: 108/85(91) {99/77(81) - 137/95(108)} mmHg
   RR: 22 (22 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 56.3 kg
   Height: 70 Inch
             Total In:
                                                                  2,619 mL
                                                                  1,380 mL
   PO:
             TF:
   IVF:
                                                                  2,619 mL
                                                                  1,380 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    600 mL
   Urine:
                                                                  1,700 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    919 mL
                                                                    780 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   7.5 g/dL
   315 K/uL
   91 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   13 mg/dL
   109 mEq/L
   138 mEq/L
   24.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2131-10-4**]  05:21 AM
                             [**2131-10-5**]  01:58 AM
                             [**2131-10-5**]  06:24 PM
                            [**2131-10-6**]  03:01 AM
                            [**2131-10-6**]  09:30 AM
                            [**2131-10-6**]  06:30 PM
                            [**2131-10-7**]  03:11 AM
                            [**2131-10-7**]  05:08 AM
                            [**2131-10-7**]  07:45 AM
                            [**2131-10-8**]  03:41 AM
   WBC
   10.1
   11.7
   7.9
   7.4
   8.7
   Hct
   28.7
   27.7
   25.4
   25.0
   24.2
   Plt
   [**Telephone/Fax (3) 8661**]15
   315
   Cr
   1.2
   1.3
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   1.0
   Glucose
   122
   103
   103
   346
   85
   88
   [**Telephone/Fax (2) 8684**]
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB / Troponin-T:20//,
   ALT / AST:60/46, Alk Phos / T Bili:247/0.6, Differential-Neuts:88.4 %,
   Band:3.0 %, Lymph:9.5 %, Mono:1.3 %, Eos:0.7 %, Fibrinogen:253 mg/dL,
   Lactic Acid:1.3 mmol/L, Albumin:1.8 g/dL, LDH:309 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CONSTIPATION (OBSTIPATION, FOS)
 TACHYCARDIA, OTHER
 SHOCK, SEPTIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 IMPAIRED HEALTH MAINTENANCE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ENDOCARDITIS, BACTERIAL
   57 yo with admission for infective endocarditis with hospital course
   now notable for persistent weakness and patient refusal of NGT
   placement or G-tube placement.
   1)Endocarditis-
   Cont vanco.  Doing well
   2)Weakness-critical illness polyneuropathy
   Voice and strength much better today.  Swallow eval tomorrow.  Cont
   work with PT/OT
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-10-1**] 10:52 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: